2132-10-12 08:50:00 Physician Attending Progress Note
Chief Complaint: etoh pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42F with hx of VP shunt following brain aneurysm, acute on chronic
   alcoholic pancreaitis admitted to the ICU for pain control and
   monitoring:
   24 Hour Events:
 EKG - At [**2132-10-12**] 12:08 AM
   - no major events overnight
   - formally seen by surgery, no indication for surgery
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2132-10-12**] Hydromorphone (Dilaudid) - [**2132-10-12**]
   Other medications:
   SCH, dilaudid q2h, ativan q2hr, LR,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Gastrointestinal: Nausea
   Genitourinary: Foley
   Psychiatric / Sleep: No(t) Delirious
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-10-12**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 123 (104 - 123) bpm
   BP: 102/70(77) {95/46(64) - 125/72(112)} mmHg
   RR: 27 (18 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93 kg (admission): 93 kg
             Total In:
                                                                  3,754 mL
                                                                  3,315 mL
   PO:
             TF:
   IVF:
                                                                    754 mL
                                                                  3,315 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                    720 mL
   Urine:
                                                                    160 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,194 mL
                                                                  2,595 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Respiratory / Chest: (Expansion: Symmetric), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Tender: epigastric
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   180
   123 mg/dL
   0.8
   17
   4.4 mEq/L
   12
   116 mEq/L
   135 mEq/L
   30
   18
        [image002.jpg]
                            [**2132-10-12**]  05:18 AM
   Glucose
   123
   Imaging:
   cxr: bibasilar atelectasis
   ctap: awaiting read
   Lactate 2.0
   Lipase 500 (down from 1300)
   Ca 6.1, albumin 3
   Microbiology: bcx pending
   Assessment and Plan
   42F with h/o chronic pancreatitis, presents after an alhocol binge and
   evidence of acute pancreatitis, without signs of pancreatic necrosis or
   pseudocyst, now with persistent pain and anxiety. Increased
   triglicerides are likely secondary to pancreatic dysfunction rather
   than the primary cause.
   For pancreatitis, will continue aggressive hydration with goal adequate
   uop. Will continue aggressive pain management with iv opiates. Will
   continue to monitor labs, and will recheck triglycerides.
   Acute respiratory failure
 multifactorial relating to low lung volume
   ventilation (d/t pain), 8L positive +/- [**Doctor Last Name 2**]/ARDS. Will try increasing
   pain control with goal of reducing hyperventilation. Will likely
   require intubation.
   Fever
 likely due to pancreatitis. If deteriorates, would start
   empiric Abx and repeat scan looking for necrosis.
   ICU Care
   Nutrition: will advance when tolerates
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2132-10-11**] 11:16 PM
   20 Gauge - [**2132-10-11**] 11:17 PM
   Prophylaxis:
   DVT: SQH (Systemic anticoagulation: None)
   Stress ulcer: PPI
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU while has a q2hr iv med requirement
   Pt is critically ill.
   Total time spent: 35 minutes

2132-10-13 07:39:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   24 Hour Events:
 MULTI LUMEN - START [**2132-10-12**] 12:30 PM
 PAN CULTURE - At [**2132-10-12**] 01:05 PM
 INVASIVE VENTILATION - START [**2132-10-12**] 06:50 PM
 ARTERIAL LINE - START [**2132-10-12**] 10:28 PM
 FEVER - 103.7
F - [**2132-10-13**] 03:00 AM
   -surgery consulted, recommended conservative mgmt
   -R IJ triple lumen placed
   -RUQ U/S showed no cholelithiasis or secondary signs of
   cholecystitis
   -intubated for hypoxemic resp failure
   -R radial A-line placed
   -started vanc/zosyn (+cipro per ID) for persistent fever, tachycardia,
   possible RLL infiltrate
   -paralyzed with cisatracurium b/c so dysynchronous with vent likely due
   to acidemia
   -started on neo gtt
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-12**] 07:35 PM
   Ciprofloxacin - [**2132-10-12**] 09:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-13**] 05:42 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.07 mg/Kg/hour
   Phenylephrine - 2 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2132-10-12**] 06:06 PM
   Lorazepam (Ativan) - [**2132-10-12**] 06:07 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-12**] 11:01 PM
   Fentanyl - [**2132-10-12**] 11:42 PM
   Midazolam (Versed) - [**2132-10-12**] 11:43 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2132-10-13**] 12:13 AM
   Cisatracurium - [**2132-10-13**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-13**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 38.9
C (102.1
   HR: 115 (115 - 150) bpm
   BP: 98/63(71) {85/46(56) - 125/79(84)} mmHg
   RR: 24 (20 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93 kg (admission): 93 kg
    CVP: 18 (6 - 19)mmHg
   Total In:
                                                                 10,986 mL
                                                                  3,100 mL
   PO:
   TF:
   IVF:
                                                                 10,986 mL
                                                                  3,050 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    248 mL
   Urine:
                                                                  1,455 mL
                                                                    248 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,531 mL
                                                                  2,852 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   Plateau: 39 cmH2O
   Compliance: 18.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.16/54/81.[**Numeric Identifier 8**]/16/-9
   Ve: 12.3 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   161 K/uL
   8.8 g/dL
   117 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.4 mEq/L
   16 mg/dL
   111 mEq/L
   134 mEq/L
   30.0 %
   15.0 K/uL
        [image002.jpg]
                            [**2132-10-12**]  05:18 AM
                            [**2132-10-12**]  07:45 AM
                            [**2132-10-12**]  12:51 PM
                            [**2132-10-12**]  06:22 PM
                            [**2132-10-12**]  10:56 PM
                            [**2132-10-13**]  12:35 AM
                            [**2132-10-13**]  03:52 AM
                            [**2132-10-13**]  04:28 AM
   WBC
   17.2
   17.6
   15.0
   Hct
   32.3
   30.4
   30.0
   Plt
   [**Telephone/Fax (3) 8928**]
   Cr
   0.8
   0.8
   1.2
   TropT
   <0.01
   TCO2
   18
   20
   22
   20
   Glucose
   123
   112
   114
   117
   Other labs: PT / PTT / INR:13.0/33.4/1.0, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:18/38, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:/200, Differential-Neuts:83.0 %, Band:8.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:5.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Microbiology: Micor - NGTD
   Assessment and Plan
   42F with acute on chronic alcoholic pancreaitis admitted to the ICU for
   pain control.  APACHEII score 7.
   .
   Pancreatitis - Acute on chronic, likely [**1-21**] to binge alcohol
   consumption, howver, triglyceride and cholesterol also considerbaly
   elevated.  Pt had been sober but relapsed recently.  APACHEII score 7
   with corresponds to a predicted death rate of 7.6%.
   - Continue aggressive fluid resuscitation, titrate to urine output of
   50-75cc/h
   - NPO, consider TPN
   - empricially started on vanc/zosyn, consider switching to imipenem
   - follow-up general surgery consult
   - trend HCT, goal hemodilution
   - re-image abdomen this am
   .
   Hypoxemic Respiratory Failure - Likely [**1-21**] aggressive volume
   resuscitation for pancreatitis
   - vented
   - paralyzed
   - wean as tolerated
   .
   Chest Pain - No known cardiac disease but strong family history.  Past
   hypertension though no longer on meds.  Hypercholesterolemia.  EKG with
   T wave inversions in anterior leads.  Q wave II and aVF.
   - Cardiac enzymes negative
   - repeat EKG when pain free unchanged
   .
   Depression - Will hold wellbutrim and citalopram for now while NPO
   - ativan for anxiety
   - SW consult
   .
   FEN - NPO/ Aggressive IVFs/ replete lytes prn - stay on top of calcium
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-10-11**] 11:16 PM
   20 Gauge - [**2132-10-11**] 11:17 PM
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Arterial Line - [**2132-10-12**] 10:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-10-13 09:38:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   24 Hour Events:
 MULTI LUMEN - START [**2132-10-12**] 12:30 PM
 PAN CULTURE - At [**2132-10-12**] 01:05 PM
 INVASIVE VENTILATION - START [**2132-10-12**] 06:50 PM
 ARTERIAL LINE - START [**2132-10-12**] 10:28 PM
 FEVER - 103.7
F - [**2132-10-13**] 03:00 AM
   -surgery consulted, recommended conservative mgmt
   -R IJ triple lumen placed
   -RUQ U/S showed no cholelithiasis or secondary signs of cholecystitis
   -intubated for hypoxemic resp failure
   -R radial A-line placed
   -started vanc/zosyn (+cipro per ID) for persistent fever, tachycardia,
   possible RLL infiltrate
   -paralyzed with cisatracurium b/c so dysynchronous with vent likely due
   to acidemia
   -started on neo gtt
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-12**] 07:35 PM
   Ciprofloxacin - [**2132-10-12**] 09:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-13**] 05:42 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.07 mg/Kg/hour
   Phenylephrine - 2 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2132-10-12**] 06:06 PM
   Lorazepam (Ativan) - [**2132-10-12**] 06:07 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-12**] 11:01 PM
   Fentanyl - [**2132-10-12**] 11:42 PM
   Midazolam (Versed) - [**2132-10-12**] 11:43 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2132-10-13**] 12:13 AM
   Cisatracurium - [**2132-10-13**] 02:45 AM
   Other medications:
   Folic acid/thiamine/mtv
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain as sedated and paralyzed
   Flowsheet Data as of  [**2132-10-13**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 38.9
C (102.1
   HR: 115 (115 - 150) bpm
   BP: 98/63(71) {85/46(56) - 125/79(84)} mmHg
   RR: 24 (20 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93 kg (admission): 93 kg
    CVP: 18 (6 - 19)mmHg
   Total In:
                                                                 10,986 mL
                                                                  3,100 mL
   PO:
   TF:
   IVF:
                                                                 10,986 mL
                                                                  3,050 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    248 mL
   Urine:
                                                                  1,455 mL
                                                                    248 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,531 mL
                                                                  2,852 mL
   Respiratory support
   O2 Delivery Device: Ventilator
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   Plateau: 39 cmH2O
   Compliance: 18.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.16/54/81.[**Numeric Identifier 8**]/16/-9
   Ve: 12.3 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   161 K/uL
   8.8 g/dL
   117 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.4 mEq/L
   16 mg/dL
   111 mEq/L
   134 mEq/L
   30.0 %
   15.0 K/uL
        [image002.jpg]
                            [**2132-10-12**]  05:18 AM
                            [**2132-10-12**]  07:45 AM
                            [**2132-10-12**]  12:51 PM
                            [**2132-10-12**]  06:22 PM
                            [**2132-10-12**]  10:56 PM
                            [**2132-10-13**]  12:35 AM
                            [**2132-10-13**]  03:52 AM
                            [**2132-10-13**]  04:28 AM
   WBC
   17.2
   17.6
   15.0
   Hct
   32.3
   30.4
   30.0
   Plt
   [**Telephone/Fax (3) 8928**]
   Cr
   0.8
   0.8
   1.2
   TropT
   <0.01
   TCO2
   18
   20
   22
   20
   Glucose
   123
   112
   114
   117
   Other labs: PT / PTT / INR:13.0/33.4/1.0, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:18/38, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:/200, Differential-Neuts:83.0 %, Band:8.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:5.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Microbiology: NGTD
   Assessment and Plan
   42F with acute on chronic alcoholic pancreatitis admitted to the ICU
   for pain control.  APACHEII score 7.
   .
   Pancreatitis - Acute on chronic, likely [**1-21**] to binge alcohol
   consumption, however, triglyceride and cholesterol also considerably
   elevated.  Initially, APACHEII score 7 with corresponds to a predicted
   death rate of 7.6%.  Currently 40% mortality [**First Name8 (NamePattern2) 24**] [**Last Name (un) 1840**]
s criteria.
   - check SVO2
   - Continue aggressive fluid resuscitation, titrate to urine output of
   50-75cc/h
   - Cont. neo for goal MAP >60
   - empirically started on vanc/zosyn/cipro, consider switching to
   imipenem
   - NPO, consider TPN v. NJ tube (currently not stable to get)
   - repeat TG, if >500, start gemfibrozil 600 [**Hospital1 **]
   - trend HCT
   - re-image abdomen this am with IV nac
   - follow-up general surgery consult
   .
   Hypoxemic Respiratory Failure - Likely [**1-21**] aggressive volume
   resuscitation for pancreatitis.  Now with ARDS.  Plateau pressure of
   38.
   - ARDSnet ventilation with 6 cc/kg, may need to increase RR to maintain
   minute ventilation
   - Esophageal balloon to optimize PEEP
   - paralyzed with cis
   .
   Chest Pain - No known cardiac disease but strong family history.  Past
   hypertension though no longer on meds.  Hypercholesterolemia.  EKG with
   T wave inversions in anterior leads.  Q wave II and aVF.
   - Cardiac enzymes negative
   .
   Depression - Will hold wellbutrim and citalopram for now while NPO
   .
   FEN - NPO/ Aggressive IVFs/ replete lytes prn - stay on top of calcium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-10-11**] 11:16 PM
   20 Gauge - [**2132-10-11**] 11:17 PM
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Arterial Line - [**2132-10-12**] 10:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-10-14 07:38:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2132-10-13**] 11:45 AM
 FEVER - 102.8
F - [**2132-10-13**] 08:00 AM
   - CT abdomen showed significant progression of severe pancreatitis with
   concern for widespread necrosis involving the body and tail, extending
   into the neck. No gas-containing pancreatic fluid collection.  Surgery
   aware and following closely.
   - No increase in pressor requirement, stable at neo at 1 mcg/kg, came
   down this am
   - Esophageal ballon placed and PEEP increased to 16 with marked
   improvement in oxygenation.  FiO2 down to 60%.
   - Bladder pressure of 22.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-13**] 09:10 PM
   Ciprofloxacin - [**2132-10-13**] 10:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-14**] 05:46 AM
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Cisatracurium - 0.08 mg/Kg/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Fentanyl - [**2132-10-13**] 10:00 AM
   Midazolam (Versed) - [**2132-10-13**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-10-13**] 09:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-14**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.9
C (98.4
   HR: 98 (85 - 123) bpm
   BP: 111/69(78) {111/69(78) - 111/69(78)} mmHg
   RR: 32 (24 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 93 kg
    CVP: 12 (10 - 19)mmHg
   Bladder pressure: 27 (22 - 27) mmHg
   Total In:
                                                                  6,250 mL
                                                                    913 mL
   PO:
   TF:
   IVF:
                                                                  6,170 mL
                                                                    913 mL
   Blood products:
   Total out:
                                                                  1,423 mL
                                                                    677 mL
   Urine:
                                                                  1,423 mL
                                                                    677 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,827 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 42 cmH2O
   Plateau: 35 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.29/37/164/16/-7
   Ve: 12.2 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), difficult to appreciate [**1-21**]
   vent sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, Cyanosis, Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   180 K/uL
   7.6 g/dL
   133 mg/dL
   1.4 mg/dL
   16 mEq/L
   4.4 mEq/L
   19 mg/dL
   110 mEq/L
   132 mEq/L
   26.0 %
   22.2 K/uL
        [image002.jpg]
                            [**2132-10-13**]  12:35 AM
                            [**2132-10-13**]  03:52 AM
                            [**2132-10-13**]  04:28 AM
                            [**2132-10-13**]  09:21 AM
                            [**2132-10-13**]  12:43 PM
                            [**2132-10-13**]  12:54 PM
                            [**2132-10-13**]  05:06 PM
                            [**2132-10-13**]  08:47 PM
                            [**2132-10-14**]  02:48 AM
                            [**2132-10-14**]  03:04 AM
   WBC
   15.0
   18.3
   22.2
   Hct
   30.0
   30.0
   26.0
   Plt
   161
   157
   180
   Cr
   1.2
   1.6
   1.5
   1.4
   TCO2
   22
   20
   19
   19
   19
   19
   Glucose
   117
   148
   152
   133
   Other labs: PT / PTT / INR:13.0/33.4/1.0, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:18/38, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:/174, Differential-Neuts:83.0 %, Band:8.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:6.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Imaging: CT Abd [**10-13**]
   1. Significant progression of severe pancreatitis with concern for
   widespread necrosis involving the body and tail, extending into the
   neck. No gas-containing pancreatic fluid collection.
   2. Although the splenic vein may be slightly attenuated in size, no
   obvious
   vascular complication of pancreatitis is identified.
   3. More confluent consolidation and ground-glass opacities have
   developed at the lung bases bilaterally. Small bilateral pleural
   effusions are new.
   Microbiology: Urine Cx [**10-12**] - 10K-100K e.coli
   Assessment and Plan
   42F with acute on chronic alcoholic pancreatitis admitted to the ICU
   for pain control.  APACHEII score 7.
   .
   Pancreatitis - Acute on chronic, likely [**1-21**] to binge alcohol
   consumption, however, triglyceride and cholesterol also considerably
   elevated.  Initially, APACHEII score 7 with corresponds to a predicted
   death rate of 7.6%.  Currently 40% mortality [**First Name8 (NamePattern2) 24**] [**Last Name (un) 1840**]
s criteria.
   - Continue aggressive fluid resuscitation, titrate to urine output of
   50-75cc/h
   - Cont. neo for goal MAP >60
   - empirically started on vanc/zosyn/[**Last Name (LF) **], [**First Name3 (LF) 116**] d/c vanc
   - place NJ tube via IR
   - repeat TG >500, so started gemfibrozil 600 [**Hospital1 **]
   - re-imaging of abdomen showed widespread necrosis
   - follow-up general surgery recs
   .
   Hypoxemic Respiratory Failure - Likely [**1-21**] aggressive volume
   resuscitation for pancreatitis.  Now with ARDS.  Plateau pressure on
   35.  CXR this AM appears much improved.
   - ARDSnet ventilation with 6 cc/kg, may need to increase RR to maintain
   minute ventilation
   - titrate down peep
   - trial off paralysis, attempt PSV after placement of NJ tube
   .
   Chest Pain - No known cardiac disease but strong family history.  Past
   hypertension though no longer on meds.  Hypercholesterolemia.  EKG with
   T wave inversions in anterior leads.  Q wave II and aVF.
   - Cardiac enzymes negative
   .
   Depression - Will hold wellbutrim and citalopram for now while NPO
   .
   FEN - NPO/ Aggressive IVFs/ replete lytes prn - stay on top of calcium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-10-11**] 11:16 PM
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Arterial Line - [**2132-10-12**] 10:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-10-14 10:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42 yo female admitted with pancreatitis- course complicated by acute
   respiratory failure. Timing of events suggestive of alcoholic etiology,
   elevated TG
s noted but unusual to develop several days after
   hospitalization
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2132-10-13**] 11:45 AM (now removed)
 FEVER - 102.8
F - [**2132-10-13**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-13**] 10:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-14**] 05:46 AM
   Vancomycin - [**2132-10-14**] 07:48 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Cisatracurium - 0.08 mg/Kg/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-10-13**] 10:00 AM
   Fentanyl - [**2132-10-13**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-10-14**] 08:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-14**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.6
C (99.7
   HR: 100 (85 - 123) bpm
   BP: 111/69(78) {0/0(0) - 0/0(0)} mmHg
   RR: 32 (24 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   CVP: 14 (10 - 19)mmHg
   Bladder pressure: 16 (16 - 27) mmHg
   Total In:
                                                                  6,250 mL
                                                                  1,354 mL
   PO:
   TF:
   IVF:
                                                                  6,170 mL
                                                                  1,354 mL
   Blood products:
   Total out:
                                                                  1,423 mL
                                                                    902 mL
   Urine:
                                                                  1,423 mL
                                                                    902 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,827 mL
                                                                    452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 38 cmH2O
   Plateau: 35 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.28/37/109/16/-8
   Ve: 11.2 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Coarse: )
   Abdominal: Firm, Distended, Bladder pressure 16, No bowel sounds
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, Paralyzed
   Labs / Radiology
   7.6 g/dL
   180 K/uL
   133 mg/dL
   1.4 mg/dL
   16 mEq/L
   4.4 mEq/L
   19 mg/dL
   110 mEq/L
   132 mEq/L
   26.0 %
   22.2 K/uL
        [image002.jpg]
                            [**2132-10-13**]  03:52 AM
                            [**2132-10-13**]  04:28 AM
                            [**2132-10-13**]  09:21 AM
                            [**2132-10-13**]  12:43 PM
                            [**2132-10-13**]  12:54 PM
                            [**2132-10-13**]  05:06 PM
                            [**2132-10-13**]  08:47 PM
                            [**2132-10-14**]  02:48 AM
                            [**2132-10-14**]  03:04 AM
                            [**2132-10-14**]  08:08 AM
   WBC
   15.0
   18.3
   22.2
   Hct
   30.0
   30.0
   26.0
   Plt
   161
   157
   180
   Cr
   1.2
   1.6
   1.5
   1.4
   TCO2
   20
   19
   19
   19
   19
   18
   Glucose
   117
   148
   152
   133
   Other labs: PT / PTT / INR:13.0/33.4/1.0, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:18/38, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:/174, Differential-Neuts:83.0 %, Band:8.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:6.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: Ionized CA 1.01
   Imaging: [**10-14**] CXR: Decreased effusions b/l, fluid in fissure, improved
   overall. ET tube and CL in place.
   [**10-13**] ABD CT: >50% pancreatic necrosis, no gas containing fluid
   collection, no vascular consolidations, small pleural effusions,
   basilar GGO and consolidations
   Microbiology: Urine [**10-12**]: >10,000 e. coli
   Assessment and Plan
   42 yo female admitted with pancreatitis- course complicated by acute
   respiratory failure. Timing of events suggestive of alcoholic etiology,
   elevated TG
s noted but unusual to develop several days after
   hospitalization
   1. Pancreatitis: sudden decompensation over past day with respiratory
   failure, dropping urine output, shock, now with pancreatic necrosis.
   - Started on gemfibrizol for hypertriglyceridemia
   - Surgery following
 no intervention for now.
   - Bowel rest / supportive care
   - Will try to get IR NJ tube for feeding
   2.  Acute respiratory failure/ARDS: Had high FiO2 requirement with
   difficulty  ventilating by last blood gas and high PP
s/poor lung
   compliance. Change to ARDSnet ventilation (Tv 6 cc/kg) with increased
   RR and re-check blood gas, continue sedation, on paralysis. Now weaned
   down to 50% FiO2 with improved CXR.
   - Will take off paralytics after IR -> if difficult to ventilate may
   try PS as no longer looks like fulfills ARDS criteria
   3. Shock/ SIRS physiology
 on neo to maintain MAP>65
   - Wean pressors as tolerated.
   4. ID: Fevers likely represent pancreatitis
   - Continue broad spectrum abx with zosyn/[**Month/Year (2) **]
 d/c vanc today
   - Continue to follow cultures
   5. Hypocalcemia: Ca replacement
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-10-11**] 11:16 PM
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Arterial Line - [**2132-10-12**] 10:28 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-10-15 07:30:00 Physician Resident Progress Note
Chief Complaint: necrotizing pancreatitis
   24 Hour Events:
   -neo gtt off at 1045 AM
   - NJ tube placed by IR, tube feeds started
   - Discontinued paralytics
   - AC changed to PSV 10/16
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-14**] 07:48 AM
   Ciprofloxacin - [**2132-10-14**] 10:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-15**] 05:54 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-10-14**] 10:07 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-14**] 10:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-15**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.8
   HR: 105 (97 - 113) bpm
   BP: 107/63(72) {106/59(70) - 112/65(73)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 41 (11 - 41)mmHg
   Bladder pressure: 17 (16 - 17) mmHg
   Total In:
                                                                  3,001 mL
                                                                    648 mL
   PO:
   TF:
                                                                    127 mL
                                                                    123 mL
   IVF:
                                                                  2,834 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    800 mL
   Urine:
                                                                  2,235 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    766 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 325 (325 - 654) mL
   PS : 10 cmH2O
   RR (Set): 32
   RR (Spontaneous): 21
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 32 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.31/38/75/18/-6
   Ve: 13.1 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, pinpoint reactive pupils bilat
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   upper lung fields, Diminished: at bases)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   hypoactive bowel sounds
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   154 K/uL
   7.2 g/dL
   152 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.8 mEq/L
   15 mg/dL
   111 mEq/L
   135 mEq/L
   21.2 %
   20.2 K/uL
        [image002.jpg]
                            [**2132-10-13**]  12:43 PM
                            [**2132-10-13**]  12:54 PM
                            [**2132-10-13**]  05:06 PM
                            [**2132-10-13**]  08:47 PM
                            [**2132-10-14**]  02:48 AM
                            [**2132-10-14**]  03:04 AM
                            [**2132-10-14**]  08:08 AM
                            [**2132-10-14**]  05:00 PM
                            [**2132-10-15**]  02:19 AM
                            [**2132-10-15**]  03:26 AM
   WBC
   18.3
   22.2
   20.2
   Hct
   30.0
   26.0
   21.2
   Plt
   157
   180
   154
   Cr
   1.6
   1.5
   1.4
   0.9
   TCO2
   19
   19
   19
   18
   20
   20
   Glucose
   148
   152
   133
   152
   Other labs: PT / PTT / INR:13.0/33.4/1.0, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:18/38, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:/59, Differential-Neuts:83.0 %, Band:8.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: [**2132-10-15**] portable CXR
   Progression of bilateral fluffy opacities no effusions
   Microbiology: [**2132-10-12**] 11:02 am URINE      Source: Catheter.
                               **FINAL REPORT [**2132-10-14**]**
      URINE CULTURE (Final [**2132-10-14**]):
         ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ESCHERICHIA COLI
                                |
   AMPICILLIN------------     4 S
   AMPICILLIN/SULBACTAM--     4 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CEFUROXIME------------     4 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   NITROFURANTOIN--------  <=16 S
   PIPERACILLIN----------   <=4 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   [**10-12**] BCx NGTD
   Assessment and Plan
   42F with acute on chronic alcoholic pancreatitis admitted to the ICU
   for pain control.  APACHEII score 7.
   .
   Necrotizing pancreatitis - most attributable to binge alcohol
   consumption; CT [**10-13**] showed significant progression of severe
   pancreatitis with widespread necrosis involving the body and tail,
   extending into the neck but no gas-containing pancreatic fluid
   collection.
   - Continue aggressive fluid resuscitation, titrate to urine output of
   50-75cc/h, CVP 10-12
   - cont cipro/zosyn
   - cont TF via NJ
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis not the cause)
   - appreciate surgery recs
   .
   Hypoxemic Respiratory Failure - ARDS from pancreatitis
   - hold sedation for PSV trial
   - try to wean Peep and follow sats
   - can check VBGs for now and hold off on new A-line
   - diurese, goal -1L
   .
   Depression - Restart wellbutrin and citalopram via NJ
   .
   FEN - TF/ replete lytes
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-10-11**] 11:16 PM
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Arterial Line - [**2132-10-12**] 10:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition:ICU

2132-10-15 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off neo
   Off paralytics - changed to PS
   NG tube placed by IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-14**] 07:48 AM
   Ciprofloxacin - [**2132-10-14**] 10:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-15**] 05:54 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-14**] 10:08 PM
   Famotidine (Pepcid) - [**2132-10-15**] 08:27 AM
   Other medications:
   Folate, Gemfibrizol, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-15**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.8
   HR: 115 (97 - 118) bpm
   BP: 103/79(87) {103/79(87) - 175/149(156)} mmHg
   RR: 29 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 17 (11 - 41)mmHg
   Bladder pressure: 16 (16 - 17) mmHg
   Total In:
                                                                  3,002 mL
                                                                  1,060 mL
   PO:
   TF:
                                                                    128 mL
                                                                    201 mL
   IVF:
                                                                  2,834 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                  1,110 mL
   Urine:
                                                                  2,235 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    767 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 496 (325 - 654) mL
   PS : 10 cmH2O
   RR (Set): 32
   RR (Spontaneous): 33
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 32 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.31/38/75/18/-6
   Ve: 16.6 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : Upper lung fields,
   Diminished: )
   Abdominal: Soft, Distended, Firm, hypoactive BS
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  no rashes, n
l skin turgor
   Neurologic: Responds to: Not assessed, Movement: none, Sedated, Tone:
   normal
   Labs / Radiology
   7.2 g/dL
   154 K/uL
   152 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.8 mEq/L
   15 mg/dL
   111 mEq/L
   135 mEq/L
   21.2 %
   20.2 K/uL
        [image002.jpg]
                            [**2132-10-13**]  12:43 PM
                            [**2132-10-13**]  12:54 PM
                            [**2132-10-13**]  05:06 PM
                            [**2132-10-13**]  08:47 PM
                            [**2132-10-14**]  02:48 AM
                            [**2132-10-14**]  03:04 AM
                            [**2132-10-14**]  08:08 AM
                            [**2132-10-14**]  05:00 PM
                            [**2132-10-15**]  02:19 AM
                            [**2132-10-15**]  03:26 AM
   WBC
   18.3
   22.2
   20.2
   Hct
   30.0
   26.0
   21.2
   Plt
   157
   180
   154
   Cr
   1.6
   1.5
   1.4
   0.9
   TCO2
   19
   19
   19
   18
   20
   20
   Glucose
   148
   152
   133
   152
   Other labs: PT / PTT / INR:13.0/33.4/1.0, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:18/38, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:/59, Differential-Neuts:83.0 %, Band:8.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: 7.31/38/75 on PS 10/16/0.5
   Imaging: CXR - Progression of b/l opacities and minimal effusions
   Microbiology: Urine CX [**10-12**] - E.coli
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock
   #. Pancreatitis: Developed respiratory failure, decreased urine output,
   shock, now with pancreatic necrosis on CT.
   - Started on gemfibrizol for hypertriglyceridemia
   - Surgery following
 no intervention for now.
   - Continue cipro/zosyn
   - given 10 pt drop in Hct will obtain repeat CT to eval for hemorraghic
   pancreatitis
   - Post-pyloric feeding
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements have improved now on  50% FiO2
   and off paralytics. PEEP requirement is high. Switched to PSV yesterday
   evening, unsure if pt did not tolerate AC off paralytics
   - CXR looks worse this am.
   - On PS
 Will continue to wean PEEP as tolerated. Goal O2 sat > 92%
   - Will try to re-site art line
   - Diuresis as tolerated
   #. ID: Fevers likely represent pancreatitis
   - Continue broad spectrum abx with zosyn/cipro
   - Continue to follow cultures
   # Hct drop: 30->26->21.  Concern is for acute blood loss anemia- Guiac
   positive but no obvious signs of bleeding.  ?hemorrhagic pancreatitis
   - Transfuse 2 units today
   - Serial hcts, change to PPI
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-15**] 06:03 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-10-11**] 11:16 PM
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Arterial Line - [**2132-10-12**] 10:28 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family (2 sisters, brother-in-law) updated at
   bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2132-10-16 07:34:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   24 Hour Events:
 SPUTUM CULTURE - At [**2132-10-15**] 10:00 AM
 ARTERIAL LINE - STOP [**2132-10-15**] 10:55 AM
 BLOOD CULTURED - At [**2132-10-15**] 04:14 PM
   drawn from Triple lumen
 URINE CULTURE - At [**2132-10-15**] 04:15 PM
 FEVER - 102.2
F - [**2132-10-15**] 05:00 PM
   -hct 26-21-19.5 over 32 hrs, transfused 2U prbc, guaiac positive,
   stopped SQH in favor of 'boots, surgery team notified
   -post transfusion Hct 23.2, gave 2 add'l units PRBC
   -CT abd w/o contrast performed to eval Hct drop showed no hemorrhagic
   change with increased SC third spacing but similar appearance of
   peripancreatic fluid
   -Aline malfunctioning, unable to be replaced despite multiple attempts
   -lasix 20 mg IV at 1100 put out 1100
   -lasix 20 mg IV at 1800 put out 700
   -lasix 40 mg IV with 3rd unit at 0400
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-14**] 07:48 AM
   Ciprofloxacin - [**2132-10-15**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-16**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-10-15**] 08:27 AM
   Pantoprazole (Protonix) - [**2132-10-15**] 04:04 PM
   Furosemide (Lasix) - [**2132-10-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-16**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.5
C (99.5
   HR: 105 (102 - 118) bpm
   BP: 120/66(78) {105/51(63) - 127/77(86)} mmHg
   RR: 23 (21 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 16 (10 - 271)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  2,669 mL
                                                                  1,451 mL
   PO:
   TF:
                                                                    232 mL
   IVF:
                                                                  1,561 mL
                                                                    611 mL
   Blood products:
                                                                    655 mL
                                                                    750 mL
   Total out:
                                                                  3,825 mL
                                                                  2,690 mL
   Urine:
                                                                  3,825 mL
                                                                  2,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,156 mL
                                                                 -1,239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 454 (454 - 565) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 13.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, pinpoint
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   183 K/uL
   11.0 g/dL
   148 mg/dL
   0.9 mg/dL
   22 mEq/L
   2.8 mEq/L
   12 mg/dL
   108 mEq/L
   139 mEq/L
   31.6 %
   28.4 K/uL
        [image002.jpg]
                            [**2132-10-13**]  08:47 PM
                            [**2132-10-14**]  02:48 AM
                            [**2132-10-14**]  03:04 AM
                            [**2132-10-14**]  08:08 AM
                            [**2132-10-14**]  05:00 PM
                            [**2132-10-15**]  02:19 AM
                            [**2132-10-15**]  03:26 AM
                            [**2132-10-15**]  10:38 AM
                            [**2132-10-15**]  11:05 PM
                            [**2132-10-16**]  06:05 AM
   WBC
   22.2
   20.2
   28.4
   Hct
   26.0
   21.2
   19.5
   23.2
   31.6
   Plt
   180
   154
   183
   Cr
   1.5
   1.4
   0.9
   0.9
   TCO2
   19
   18
   20
   20
   Glucose
   152
   133
   152
   148
   Other labs: PT / PTT / INR:13.0/33.4/1.0, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:18/38, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:/59, Differential-Neuts:83.0 %, Band:8.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Imaging: CT ABD [**10-16**]
   1. No appreciable increase in peripancreatic or abdominal free fluid or
   hyperdense foci of fluid to suggest hemorrhagic or progressive
   pancreatitis.
   2. Extensive third spacing, particularly in the subcutaneous soft
   tissues, worse since prior study.
   3. Bilateral dependent consolidations, similar on the left, and
   improved on the right. Patchy infiltrates seen at the lung bases remain
   present.
   4. Diffusely hypodense appearance of the liver, which may suggest the
   presence of a fatty liver.
   5. Note that solid visceral structures are quite limited in assessment
   due to the absence of intravenous contrast on this study.
   Assessment and Plan
   42F with acute on chronic alcoholic pancreatitis admitted to the ICU
   for pain control.  APACHEII score 7.
   .
   Necrotizing pancreatitis - most attributable to binge alcohol
   consumption; CT [**10-13**] showed significant progression of severe
   pancreatitis with widespread necrosis involving the body and tail,
   extending into the neck but no gas-containing pancreatic fluid
   collection.   CT [**10-16**] showed no appreciable increase in peripancreatic
   fluid to suggest hemorrhagic or progressive pancreatitis.
   - cont cipro/zosyn
   - cont TF via NJ
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis not the cause)
   - appreciate surgery recs
   .
   Anemia - Pt had drop in HCT from 26>19.5, newly guaiac positive, got a
   total of 4u pRBCs.  Though HCT only went from 19.5 to 23 with initial 2
   units, now at 31.  Non-con CT abdomen did not show evidence of an acute
   bleed.
   - q8h HCT
   .
   Hypoxemic Respiratory Failure - ARDS from pancreatitis
   - hold sedation for PSV trial
   - try to wean Peep and follow sats
   - can check VBGs for now as unable to obtain new A-line
   - add vanc to cipro/zosyn
   - f/u sputum cx
   - allow for autodiurese or goal of 0
   .
   Depression - Restart wellbutrin and citalopram via NJ
   .
   Constipation
 may be due to high doses of fentanyl
   - bowel regimen
   - if not improvement, try po narcan
   .
   FEN - TF/ replete lytes, autodiurese or goal of 0
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Needs A-line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-10-16 10:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   A line stopped working - unable to replace despite mutiple attempts
   Tm 102
   Hct dropped from 26 to 19 - 2 units PRBC with increase to 21 - 2 more
   units PRBC with increase to 31
   CT Abd without evidence of acute bleed
   Bladder pressures in teens
   Diuresed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-14**] 07:48 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-16**] 06:00 AM
   Ciprofloxacin - [**2132-10-16**] 09:56 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-15**] 04:04 PM
   Furosemide (Lasix) - [**2132-10-16**] 04:00 AM
   Other medications:
   RISS, Folate, Lopid, Lytes
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-16**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.7
C (99.8
   HR: 107 (102 - 116) bpm
   BP: 123/72(84) {105/51(63) - 129/86(95)} mmHg
   RR: 23 (21 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 18 (10 - 271)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,669 mL
                                                                  1,972 mL
   PO:
   TF:
                                                                    232 mL
   IVF:
                                                                  1,561 mL
                                                                  1,072 mL
   Blood products:
                                                                    655 mL
                                                                    750 mL
   Total out:
                                                                  3,825 mL
                                                                  3,240 mL
   Urine:
                                                                  3,825 mL
                                                                  3,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,156 mL
                                                                 -1,268 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (454 - 565) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: ///21/
   Ve: 11.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   183 K/uL
   149 mg/dL
   0.8 mg/dL
   21 mEq/L
   2.8 mEq/L
   12 mg/dL
   105 mEq/L
   141 mEq/L
   31.6 %
   28.4 K/uL
        [image002.jpg]
                            [**2132-10-13**]  08:47 PM
                            [**2132-10-14**]  02:48 AM
                            [**2132-10-14**]  03:04 AM
                            [**2132-10-14**]  08:08 AM
                            [**2132-10-14**]  05:00 PM
                            [**2132-10-15**]  02:19 AM
                            [**2132-10-15**]  03:26 AM
                            [**2132-10-15**]  10:38 AM
                            [**2132-10-15**]  11:05 PM
                            [**2132-10-16**]  06:05 AM
   WBC
   22.2
   20.2
   28.4
   Hct
   26.0
   21.2
   19.5
   23.2
   31.6
   Plt
   180
   154
   183
   Cr
   1.5
   1.4
   0.9
   0.9
   0.8
   TCO2
   19
   18
   20
   20
   Glucose
   152
   133
   152
   148
   149
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:83.0 %, Band:8.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Imaging: [**10-15**] Abd CT - No increase in peripancreatic fluid and
   stranding, no evidence of hemorrhage, stable pancreatitis, bilateral
   consolidations, patchy basilar infiltrates, ?fatty liver
   CXR - Persisente edema. ET tube in place.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now likely
   complicated by volume overload and VAP.
    #. Necrotizing pancreatitis: Unchanged  on most recent CT.  No
   evidence of hemorrhage at this time.
   - Started on gemfibrizol for hypertriglyceridemia
   - Surgery following
 no intervention for now.
   - Continue cipro/zosyn
   - Post-pyloric feeding
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements have improved now on  50% FiO2
   and off paralytics. PEEP requirement is high on PSV with TV in
   400-500.  Now with increased secretions, elevated WBC, and CT findings
   concerning for VAP.
   - Will try to re-site art line
   - If oxygenation permits, will try to wean PEEP
   - I/Os even today given tachycardia
   - Restart vancomycin for VAP (CXR improved on it and has worsened now
   that she is off)
   - Follow up sputum culture
   #. ID: Fevers likely represent pancreatitis with superimposed VAP.
   - Continue broad spectrum abx with zosyn/cipro. Add back vanco.
   - Continue to follow cultures
   # Hct drop: Bumped appropriately after 4 units.  No evidence of active
   bleed (guiac +, abd CT negative). On PPI.
   - Serial hcts
   #FEN/GI: Restart TF post-pyloric. Start bowel regimen.
   ICU Care
   Nutrition:
   Comments: NJT feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Bundle in place
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-10-17 07:45:00 Physician Resident Progress Note
Chief Complaint:
   Abdominal PAin
   24 Hour Events:
 FEVER - 102.6
F - [**2132-10-16**] 04:00 PM
   - Autodiuresed
   - HCT stable
   - Spiked a fever to 102.6 and pan-cultured
   - Attempted aline again on L radial artery, failed.  But, got an ABG of
   7.39/38/114 and creeped PEEP down from 16 to 14.
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-16**] 08:00 PM
   Ciprofloxacin - [**2132-10-16**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-17**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.4
C (101.1
   HR: 110 (104 - 120) bpm
   BP: 112/62(74) {105/58(71) - 136/87(97)} mmHg
   RR: 22 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 18 (18 - 18)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  4,273 mL
                                                                    851 mL
   PO:
   TF:
                                                                    241 mL
                                                                    239 mL
   IVF:
                                                                  2,892 mL
                                                                    612 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  4,630 mL
                                                                  1,300 mL
   Urine:
                                                                  4,630 mL
                                                                    700 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                   -357 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 432 (432 - 550) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 4
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.39/38/114/22/-1
   Ve: 18.7 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   184 K/uL
   9.8 g/dL
   196 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   12 mg/dL
   110 mEq/L
   142 mEq/L
   29.6 %
   26.2 K/uL
        [image002.jpg]
                            [**2132-10-14**]  05:00 PM
                            [**2132-10-15**]  02:19 AM
                            [**2132-10-15**]  03:26 AM
                            [**2132-10-15**]  10:38 AM
                            [**2132-10-15**]  11:05 PM
                            [**2132-10-16**]  06:05 AM
                            [**2132-10-16**]  01:43 PM
                            [**2132-10-16**]  03:44 PM
                            [**2132-10-16**]  09:57 PM
                            [**2132-10-17**]  02:55 AM
   WBC
   20.2
   28.4
   26.2
   Hct
   21.2
   19.5
   23.2
   31.6
   29.7
   29.5
   29.6
   Plt
   154
   183
   184
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   TCO2
   20
   20
   24
   Glucose
   152
   148
   149
   188
   196
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR [**10-16**] -
   Slight increase in diffuse heterogeneous opacification representing
   pulmonary edema and atelectasis with possible infection. The continued
   increase of these opacities over the several prior radiographs raises
   the possibility of ARDS.
   Microbiology: [**10-16**] - Sputum - no microorganisms
   Assessment and Plan
   42F with acute on chronic alcoholic pancreatitis admitted to the ICU
   for pain control.  APACHEII score 7.
   .
   Necrotizing pancreatitis - most attributable to binge alcohol
   consumption; CT [**10-13**] showed significant progression of severe
   pancreatitis with widespread necrosis involving the body and tail,
   extending into the neck but no gas-containing pancreatic fluid
   collection.   CT [**10-16**] showed no appreciable increase in peripancreatic
   fluid to suggest hemorrhagic or progressive pancreatitis.
   - cont vanc/cipro/zosyn
   - cont TF via NJ
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis not the cause)
   - appreciate surgery recs
   .
   Anemia - Pt had drop in HCT from 26>19.5, newly guaiac positive, got a
   total of 4u pRBCs.  Though HCT only went from 19.5 to 23 with initial 2
   units, now at 31.  Non-con CT abdomen did not show evidence of an acute
   bleed.
   - HCT stable overnight, can check [**Hospital1 **]
   .
   Hypoxemic Respiratory Failure - ARDS from pancreatitis
   - try to wean Peep and follow sats
   - can check VBGs for now as unable to obtain new A-line
   - on vanc/cipro/zosyn
   - f/u sputum cx
   - allow for autodiurese or goal of 0
   - consider bronch
   .
   Depression - Restart wellbutrin and citalopram via NJ
   .
   Constipation
 Resolved
   .
   FEN - TF/ replete lytes, autodiurese or goal of 0
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-10-17 10:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Unable to replace a line yesterday
   Fever 102.6
   Autodiuresis
   Vent: Peep weaned. Tried on ARDS, but very agitated despite increased
   sedation. Placed back on PS.
   Increased secretions overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-17**] 06:00 AM
   Vancomycin - [**2132-10-17**] 08:21 AM
   Ciprofloxacin - [**2132-10-17**] 09:26 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-17**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.9
C (102
   HR: 112 (104 - 120) bpm
   BP: 119/70(81) {105/58(71) - 136/87(97)} mmHg
   RR: 23 (19 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 16 (16 - 18)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  4,273 mL
                                                                  1,695 mL
   PO:
   TF:
                                                                    241 mL
                                                                    362 mL
   IVF:
                                                                  2,892 mL
                                                                  1,273 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  4,630 mL
                                                                  2,280 mL
   Urine:
                                                                  4,630 mL
                                                                  1,680 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                   -357 mL
                                                                   -583 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 556 (432 - 556) mL
   PC : 10 cmH2O
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 34
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: 7.39/38/114/22/-1
   Ve: 17.8 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Bladder
   pressure 18
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   184 K/uL
   196 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   12 mg/dL
   110 mEq/L
   142 mEq/L
   29.6 %
   26.2 K/uL
        [image002.jpg]
                            [**2132-10-14**]  05:00 PM
                            [**2132-10-15**]  02:19 AM
                            [**2132-10-15**]  03:26 AM
                            [**2132-10-15**]  10:38 AM
                            [**2132-10-15**]  11:05 PM
                            [**2132-10-16**]  06:05 AM
                            [**2132-10-16**]  01:43 PM
                            [**2132-10-16**]  03:44 PM
                            [**2132-10-16**]  09:57 PM
                            [**2132-10-17**]  02:55 AM
   WBC
   20.2
   28.4
   26.2
   Hct
   21.2
   19.5
   23.2
   31.6
   29.7
   29.5
   29.6
   Plt
   154
   183
   184
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   TCO2
   20
   20
   24
   Glucose
   152
   148
   149
   188
   196
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR - Worsening bilaterial infiltrates.
   Microbiology: Sputum - negative. All other cultures negative to date.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now likely
   complicated by volume overload and VAP.
   #. Necrotizing pancreatitis: Unchanged  on most recent CT.  No evidence
   of hemorrhage at this time.
   - Surgery following
 no intervention for now.
   - Continue cipro/zosyn
   - Post-pyloric feeding
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements have improved now on 50% FiO2
   and off paralytics. PEEP requirement is high on PSV with TV in 500s.
   Now with increased secretions, elevated WBC, and CT findings concerning
   for VAP.
   - Will try to re-site art line
   - Wean PEEP based on ABG
   -.AC ventilation attempted using Tv
s between 350-450 cc (6cc/kg
   IBW=386)- with each attempt, pt became dyssynchronous and tachypneic,
   no improv
t with heavy sedation. At this time, better to have TVs in
   500s than be chronically paralyzed. Back to PSV, did decrease PS from
   10 to 8 to attempt to decrease TVs
   - Auto diuresis
   - On vancomycin for VAP
   - Resend sputum culture
   #. ID: Fevers likely represent pancreatitis with superimposed VAP.
   - Continue broad spectrum abx with vanc/zosyn/cipro.
   - Continue to follow cultures
   #. Hct drop: Bumped appropriately after 4 units [**10-15**].  No evidence of
   active bleed (guiac +, abd CT negative). On PPI.
   - Serial hcts
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-17**] 07:22 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-10-18 07:58:00 Physician Resident Progress Note
Chief Complaint: necrotizing pancreatitis, ARDS
   24 Hour Events:
   - attempted ARDSnet ventilation, patient became tachypneic and
   overbreathing the vent, placed back on PSV
   - multiple attempts to place A-line unsuccessful
   - pan-cultured for fever to 102.5
   - insulin gtt started for hyperglycemia
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-17**] 08:11 PM
   Ciprofloxacin - [**2132-10-17**] 10:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-18**] 06:39 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-10-18**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.3
C (99.2
   HR: 98 (98 - 123) bpm
   BP: 118/61(98) {105/55(67) - 142/90(98)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 9 (3 - 219)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  3,992 mL
                                                                    835 mL
   PO:
   TF:
                                                                  1,048 mL
                                                                    377 mL
   IVF:
                                                                  2,464 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  4,680 mL
                                                                    985 mL
   Urine:
                                                                  3,430 mL
                                                                    985 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
   Balance:
                                                                   -688 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 495 (495 - 564) mL
   PS : 8 cmH2O
   RR (Set): 22
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.41/41/120/27/1
   Ve: 10.3 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases, Rhonchorous: throughout upper lung fields)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, R IJ site c/d/i no erythema
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   241 K/uL
   9.8 g/dL
   101 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   11 mg/dL
   114 mEq/L
   150 mEq/L
   29.8 %
   28.9 K/uL
         [image002.jpg]
                            [**2132-10-15**]  11:05 PM
                            [**2132-10-16**]  06:05 AM
                            [**2132-10-16**]  01:43 PM
                            [**2132-10-16**]  03:44 PM
                            [**2132-10-16**]  09:57 PM
                            [**2132-10-17**]  02:55 AM
                            [**2132-10-17**]  10:56 AM
                            [**2132-10-17**]  03:26 PM
                            [**2132-10-18**]  03:02 AM
                            [**2132-10-18**]  04:01 AM
   WBC
   28.4
   26.2
   26.5
   28.9
   Hct
   23.2
   31.6
   29.7
   29.5
   29.6
   28.7
   29.8
   Plt
   183
   184
   222
   241
   Cr
   0.9
   0.8
   0.8
   0.7
   0.7
   0.5
   TCO2
   24
   25
   27
   Glucose
   148
   149
   188
   196
   260
   101
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: [**10-17**] portable CXR
   Technically limited study with low lung volumes, related to scattered
   radiation secondary to the body habitus of the patient. The monitoring
   and support devices are essentially unchanged. Diffuse heterogeneous
   opacification is again seen, consistent with pulmonary edema and
   atelectasis. In the appropriate clinical situation, some of this could
   well represent pneumonia. Again, the continued diffuse bilateral
   pattern raises the possibility of ARDS.
   Microbiology: BCx [**Date range (1) 9022**]  NGTD
   [**2132-10-16**] 3:06 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2132-10-16**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
[**2132-10-16**] 3:05 pm URINE      Source: Catheter.
                            **FINAL REPORT [**2132-10-17**]**
   URINE CULTURE (Final [**2132-10-17**]):    NO GROWTH.
   [**10-18**] C. diff toxin pending
   Assessment and Plan
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   .
   Necrotizing pancreatitis - has remained hemodynamically stable but
   fever & leukocytosis persist; no evidence of progressive necrosis or
   hemorrhage on most recent CT [**10-15**]
   - appreciate continued surgery involvement
   - cont broad-spectrum ABX (day [**7-1**])
   - cont TF via NJ
   - cont insulin gtt for hyperglycemia
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   - d/w nutrition re: role of pancreatic enzyme replacement
   -repeat CT if becomes hemodynamically unstable
   .
   Hypoxemic Respiratory Failure/ARDS
 steadily improving with less vent
   support required
   - wean PEEP (to 8 cmH2O today), FiO2 as tolerated to maintain O2sat >
   93%
   - follow VBG to evaluate status of ventilation as A-line unable to be
   placed
   - daily CXR
   .
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date); R IJ site does not appear infected
   -send c. diff toxin x 3
   -broad spectrum ABX, as above
   -check vanc level
   -f/u pending cx data
   -consider neurosurg c/s re: tap of VP shunt if all other fever workup
   unrevealing
   .
   FEN
   - cont TF
   - increase free h20 boluses to address hypernatremia
   - insulin gtt
   ICU Care
   Nutrition: tube feeds at goal
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition:ICU

2132-10-18 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Failed A/C ventilation due to dyschrony and tachypnea.
   - Weaned PEEP from 12 to 10
   - Unsuccessful a line attempts
   - Pan cultures for T 102.5
   - Hyperglycemic - started on insulin gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-17**] 10:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-18**] 06:39 AM
   Vancomycin - [**2132-10-18**] 08:00 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Other medications:
   Folate, Gemfibrizol, Lactulose, SQ heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-18**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.4
C (99.3
   HR: 100 (98 - 123) bpm
   BP: 129/75(86) {105/55(67) - 142/90(98)} mmHg
   RR: 19 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 9 (3 - 219)mmHg
   Total In:
                                                                  3,992 mL
                                                                  1,242 mL
   PO:
   TF:
                                                                  1,048 mL
                                                                    455 mL
   IVF:
                                                                  2,464 mL
                                                                    606 mL
   Blood products:
   Total out:
                                                                  4,680 mL
                                                                  1,115 mL
   Urine:
                                                                  3,430 mL
                                                                  1,115 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
   Balance:
                                                                   -688 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 495 (495 - 564) mL
   PS : 8 cmH2O
   RR (Set): 22
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.41/41/120/27/1
   Ve: 10.3 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   241 K/uL
   101 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   11 mg/dL
   114 mEq/L
   150 mEq/L
   29.8 %
   28.9 K/uL
        [image002.jpg]
                            [**2132-10-15**]  11:05 PM
                            [**2132-10-16**]  06:05 AM
                            [**2132-10-16**]  01:43 PM
                            [**2132-10-16**]  03:44 PM
                            [**2132-10-16**]  09:57 PM
                            [**2132-10-17**]  02:55 AM
                            [**2132-10-17**]  10:56 AM
                            [**2132-10-17**]  03:26 PM
                            [**2132-10-18**]  03:02 AM
                            [**2132-10-18**]  04:01 AM
   WBC
   28.4
   26.2
   26.5
   28.9
   Hct
   23.2
   31.6
   29.7
   29.5
   29.6
   28.7
   29.8
   Plt
   183
   184
   222
   241
   Cr
   0.9
   0.8
   0.8
   0.7
   0.7
   0.5
   TCO2
   24
   25
   27
   Glucose
   148
   149
   188
   196
   260
   101
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR - Improving bilateral infiltrates.  No effusions. ET tube
   at 5cm.
   Microbiology: Blood cx [**2053-10-11**] NGTD.
   C. diff [**10-18**] pending.
   Sputum [**2053-10-15**] NGTD.
   Urine [**10-17**] - NGTD.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now likely
   complicated by volume overload and VAP.
   #. Necrotizing pancreatitis: Unchanged  on most recent CT.  No evidence
   of hemorrhage at this time.
   - Surgery following
 no intervention for now.
   - Continue cipro/zosyn x 14 days
   - Post-pyloric feeding
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements have improved now on PS, 50%
   FiO2 and off paralytics. Then developed increased secretions, elevated
   WBC, and CT findings concerning for VAP.  Have tried ARDSnet AC
   ventilation multiple times using TV
s between 350-450 cc (6cc/kg
   IBW=386)- with each attempt, pt became dyssynchronous and tachypneic,
   no improv
t with heavy sedation. At this time, better to have TVs in
   500s than be chronically paralyzed. Back to PSV. Unable to place radial
   art line so will do intermittent ABGs and follow sats.
   - Weaning PEEP based on ABG
   - On vancomycin for VAP (8 days)
   - F/U sputum culture. No indication for bronch at this time.
   #. Fevers/Elevated WBC: Fevers likely represent pancreatitis with
   superimposed VAP.
   - Continue broad spectrum abx with vanc/zosyn/cipro.
   - Continue to follow cultures
   - Consider tapping shunt
   # Diarrhea:
   - Stop lactulose
   - F/U C. diff
   - Consider pancreatic enzyme replacement if diarrhea persists
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-18**] 07:27 AM 50 mL/hour
   FWF
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Met with family this am.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   with assessment and plan as outlined during multidisciplinary rounds
   this morning.
   100.9       119      129/83
   Sedated
   Chest mid insp crackles
   Na 150
   I&O
 even last 24 hrs, neg 700 today
   Continued severe pancreatitis.  On broad abx.  Cx remain negative.   Na
   is rising
 will increase free water to better account for insensible
   losses.  Oxygenation stable on PSV 8/8 FIO2 0.5.  Vt still high but
   with elevated abd pressures she is likely well below Ptp of 30 cmH2O.
   Time spent 35 min
   Critically ill

2132-10-19 07:40:00 Physician Resident Progress Note
Chief Complaint: Pancreatitis
   24 Hour Events:
 FEVER - 101.4
F - [**2132-10-18**] 03:00 PM
   -restarted SQH
   -PSV weaned to [**7-26**]
   -incr free H20 flushes to 200 q6 for hypernatremia
   -vanc trough 6.7, dose increased to 1000 mg q8h
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-18**] 10:04 PM
   Vancomycin - [**2132-10-19**] 12:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-19**] 06:15 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-18**] 04:00 PM
   Fentanyl - [**2132-10-18**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-19**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-19**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.4
C (101.1
   HR: 128 (100 - 129) bpm
   BP: 152/89(100) {110/59(71) - 167/91(108)} mmHg
   RR: 28 (18 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 9 (-4 - 347)mmHg
   Total In:
                                                                  3,721 mL
                                                                    932 mL
   PO:
   TF:
                                                                  1,217 mL
                                                                    361 mL
   IVF:
                                                                  1,863 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                  4,050 mL
                                                                    785 mL
   Urine:
                                                                  2,950 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -329 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (451 - 575) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 14.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   278 K/uL
   9.8 g/dL
   78 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   9 mg/dL
   110 mEq/L
   147 mEq/L
   29.9 %
   24.2 K/uL
        [image002.jpg]
                            [**2132-10-16**]  01:43 PM
                            [**2132-10-16**]  03:44 PM
                            [**2132-10-16**]  09:57 PM
                            [**2132-10-17**]  02:55 AM
                            [**2132-10-17**]  10:56 AM
                            [**2132-10-17**]  03:26 PM
                            [**2132-10-18**]  03:02 AM
                            [**2132-10-18**]  04:01 AM
                            [**2132-10-18**]  03:53 PM
                             [**2132-10-19**]  03:39 AM
   WBC
   26.2
   26.5
   28.9
   24.2
   Hct
   29.7
   29.5
   29.6
   28.7
   29.8
   29.9
   Plt
   184
   222
   241
   278
   Cr
   0.8
   0.7
   0.7
   0.5
   0.5
   0.4
   TCO2
   24
   25
   27
   Glucose
   188
   196
   260
   101
   90
   78
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR:  persistent bilateral patchy infiltrates
   Microbiology: C. diff neg x1
   [**2132-10-17**] 3:20 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2132-10-17**]):
         [**10-12**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Necrotizing pancreatitis - has remained hemodynamically stable but
   fever & leukocytosis persist; no evidence of progressive necrosis or
   hemorrhage on most recent CT [**10-15**]
   - appreciate continued surgery involvement
   - cont broad-spectrum ABXs vanc/zosyn/cipro (day [**7-1**])
   - cont TF via NJ
   - cont insulin gtt for hyperglycemia
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   - d/w nutrition re: role of pancreatic enzyme replacement
   Hypoxemic Respiratory Failure/ARDS
 steadily improving with less vent
   support required
   - wean PEEP (to 5 cmH2O today), FiO2 as tolerated to maintain O2sat >
   93%
   - follow VBG to evaluate status of ventilation, O2 sat for oxygenation
   as A-line unable to be placed
   - daily CXR
   - wean versed to 4, then to 2 next day
   - start fentanyl patch at 200 mcg/hr
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date); R IJ site does not appear infected
   -send c. diff toxin x 3
   -broad spectrum ABXs vanc/zosyn/cipro, as above
   -f/u pending cx data
   -consider neurosurg c/s re: tap of VP shunt +/- head CT if all other
   fever workup unrevealing
   FEN
   - cont TF
   - increase free h20 boluses to address hypernatremia
   - insulin gtt
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-10-19 08:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Persistent fevers
 Tm 101.4
   - PS weaned [**7-26**]
   - Restarted SQ heparin
   - Increased FWF for hypernatremia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-18**] 10:04 PM
   Vancomycin - [**2132-10-19**] 12:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-19**] 06:15 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-18**] 04:00 PM
   Fentanyl - [**2132-10-18**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-19**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-19**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.4
C (101.1
   HR: 130 (103 - 130) bpm
   BP: 160/93(108) {110/59(71) - 167/93(108)} mmHg
   RR: 30 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 9 (-4 - 347)mmHg
   Total In:
                                                                  3,721 mL
                                                                  1,133 mL
   PO:
   TF:
                                                                  1,217 mL
                                                                    441 mL
   IVF:
                                                                  1,863 mL
                                                                    662 mL
   Blood products:
   Total out:
                                                                  4,050 mL
                                                                    785 mL
   Urine:
                                                                  2,950 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -329 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (451 - 575) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 14.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended, Firm
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   278 K/uL
   78 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   9 mg/dL
   110 mEq/L
   147 mEq/L
   29.9 %
   24.2 K/uL
        [image002.jpg]
                            [**2132-10-16**]  01:43 PM
                            [**2132-10-16**]  03:44 PM
                            [**2132-10-16**]  09:57 PM
                            [**2132-10-17**]  02:55 AM
                            [**2132-10-17**]  10:56 AM
                            [**2132-10-17**]  03:26 PM
                            [**2132-10-18**]  03:02 AM
                            [**2132-10-18**]  04:01 AM
                            [**2132-10-18**]  03:53 PM
                             [**2132-10-19**]  03:39 AM
   WBC
   26.2
   26.5
   28.9
   24.2
   Hct
   29.7
   29.5
   29.6
   28.7
   29.8
   29.9
   Plt
   184
   222
   241
   278
   Cr
   0.8
   0.7
   0.7
   0.5
   0.5
   0.4
   TCO2
   24
   25
   27
   Glucose
   188
   196
   260
   101
   90
   78
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Micro: Sputum [**10-16**] NTGD, C.diff negative x 1
   Rads: CXR
 Stable from yesterday, improved infiltrates over last few
   days. ET tube in good position.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now likely
   complicated by volume overload and VAP.
   #. Necrotizing pancreatitis: Unchanged  on most recent CT.  No evidence
   of hemorrhage at this time.
   - Surgery following
 no intervention for now.
   - Continue cipro/zosyn
 Day [**8-1**]
   - Post-pyloric feeding
   - Will d/w nutrition role of pancreatic enzyme replacement for diarrhea
   - Ensure adequate pain control
 Will start Fentanyl TD today and wean
   gtt
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements have improved now on PS, 50%
   FiO2 and off paralytics. Then developed increased secretions, elevated
   WBC, and CT findings concerning for VAP.  Have tried ARDSnet AC
   ventilation multiple times using TV
s between 350-450 cc (6cc/kg
   IBW=386)- with each attempt, pt became dyssynchronous and tachypneic,
   no improv
t with heavy sedation. At this time, better to have TVs in
   500s than be chronically paralyzed. Back to PSV. Unable to place radial
   art line so will do intermittent ABGs and follow sats.
   - Weaning PEEP based on sats
   - On vancomycin for VAP (8 days)
   - F/U sputum culture. No indication for bronch at this time
   - Start weaning Ativan in hopes of extubating later this week to avoid
   trach
   #. Fevers/Elevated WBC: Fevers likely represent pancreatitis with
   superimposed VAP.
   - Continue broad spectrum abx with vanc/zosyn/cipro.
   - Continue to follow cultures
   #. Mental status:  Opens eyes, but no withdrawal to pain or spontaneous
   movement of extremities.  Likely due to high levels of sedation
   - Wean sedation as above
   - If persistent, consider head CT and tapping shunt
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-19**] 07:08 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Ms. [**Known lastname 9045**] with Dr. [**Last Name (STitle) 2256**], whose note reflects
   my input.  I would add/emphasize that this 42 y/o woman with severe
   necrotic pancreatitis has ongoing respiratory failure and continued
   fevers.  Her hemodynamics and respiratory status have improved over the
   past days and she is now tolerating PSV.  We will continue to wean PEEP
   and PSV as tolerated.  Sedation weaning is a major challenge; will
   continue to transition to transdermal narcotics and longer acting
   benzos.  [**Month (only) 11**] be reasonable to try dexmedetomidine; would avoid propofol
   given pancreatic disease.  For fevers and WBC; this may represent
   pancreatitis.  VAP possible.  Fever curve coming down.  If recrudesces,
   consider pancreatic sampling.  For now, continue vanco and change to
   meropenem (better pancreatic and CNS penetration, given VP shunt).
   Other issues as per Dr. [**Last Name (STitle) 2256**].  She is critically ill.  30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2132-10-19**] 17:07 ------

2132-10-20 07:33:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain
   24 Hour Events:
 FEVER - 101.8
F - [**2132-10-19**] 07:00 PM
   -PEEP weaned from 8 to 5
   -Versed weaned from 6 to 4
   -Added fentanyl patch
   -9am, patient became tachypneic and tachycardic -intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-19**] 02:00 PM
   Ciprofloxacin - [**2132-10-19**] 10:30 PM
   Vancomycin - [**2132-10-20**] 12:25 AM
   Meropenem - [**2132-10-20**] 04:40 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 3 units/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Fentanyl - [**2132-10-19**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-20**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-20**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 115 (107 - 130) bpm
   BP: 107/60(72) {107/56(72) - 160/98(112)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 8 (7 - 17)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  3,695 mL
                                                                    794 mL
   PO:
   TF:
                                                                  1,222 mL
                                                                    381 mL
   IVF:
                                                                  1,893 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  1,934 mL
                                                                    295 mL
   Urine:
                                                                  1,934 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,761 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (474 - 589) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: ///29/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to voice
   Labs / Radiology
   318 K/uL
   9.1 g/dL
   76 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   16 mg/dL
   107 mEq/L
   144 mEq/L
   27.5 %
   27.6 K/uL
        [image002.jpg]
                            [**2132-10-16**]  09:57 PM
                            [**2132-10-17**]  02:55 AM
                            [**2132-10-17**]  10:56 AM
                            [**2132-10-17**]  03:26 PM
                            [**2132-10-18**]  03:02 AM
                            [**2132-10-18**]  04:01 AM
                            [**2132-10-18**]  03:53 PM
                             [**2132-10-19**]  03:39 AM
                             [**2132-10-19**]  04:02 PM
                             [**2132-10-20**]  03:59 AM
   WBC
   26.2
   26.5
   28.9
   24.2
   27.6
   Hct
   29.5
   29.6
   28.7
   29.8
   29.9
   27.5
   Plt
   184
   222
   241
   278
   318
   Cr
   0.7
   0.7
   0.5
   0.5
   0.4
   0.5
   1.0
   TCO2
   25
   27
   Glucose
   196
   260
   101
   90
   78
   108
   76
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Necrotizing pancreatitis - has remained hemodynamically stable but
   fever & leukocytosis persist; no evidence of progressive necrosis or
   hemorrhage on most recent CT [**10-15**]
   - appreciate continued surgery involvement
   - cont broad-spectrum ABXs vanc/meropenem/cipro (day [**9-1**])
   - cont TF via NJ
   - cont insulin gtt for hyperglycemia
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   - d/w nutrition re: role of pancreatic enzyme replacement
   Hypoxemic Respiratory Failure/ARDS
 improved overnight. However this
   AM was tachypneic, and appeared in moderate respiratory distress.
   Intubated.
   - continue ventilator support, FiO2 as tolerated to maintain O2sat >
   93%
   - follow VBG to evaluate status of ventilation, O2 sat for oxygenation
   as A-line unable to be placed overnight. Reattempt to place A line
   today.
   - daily CXR
   - continue versed at 4
   - continue fentanyl at 200 mcg/hr plus fentanyl patch
   -20mg IV lasix x1 this AM.
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date); R IJ site does not appear infected
   -send c. diff toxin x 3 (1 negative)
   -broad spectrum ABXs vanc/meropenem/cipro, as above
   -f/u pending cx data
   -consider neurosurg c/s re: tap of VP shunt +/- head CT if all other
   fever workup unrevealing
   FEN
   - cont TF
   - insulin gtt
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-10-20 08:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Weaned PS
   - Weaned sedation
   - Increased tachycardia and decreased O2 sats
   - Persistent fevers
   - Vanc trough 22
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-19**] 02:00 PM
   Ciprofloxacin - [**2132-10-19**] 10:30 PM
   Meropenem - [**2132-10-20**] 04:40 AM
   Vancomycin - [**2132-10-20**] 08:05 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 3 units/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Fentanyl - [**2132-10-19**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-20**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-20**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.1
C (100.5
   HR: 126 (107 - 129) bpm
   BP: 137/71(87) {107/56(72) - 160/98(112)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 13 (7 - 17)mmHg
   Total In:
                                                                  3,695 mL
                                                                  1,070 mL
   PO:
   TF:
                                                                  1,222 mL
                                                                    439 mL
   IVF:
                                                                  1,893 mL
                                                                    631 mL
   Blood products:
   Total out:
                                                                  1,934 mL
                                                                    355 mL
   Urine:
                                                                  1,934 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,761 mL
                                                                    716 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (474 - 589) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 18 cmH2O
   SpO2: 92%
   ABG: ///29/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended, Firm
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   318 K/uL
   76 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   16 mg/dL
   107 mEq/L
   144 mEq/L
   27.5 %
   27.6 K/uL
        [image002.jpg]
                            [**2132-10-16**]  09:57 PM
                            [**2132-10-17**]  02:55 AM
                            [**2132-10-17**]  10:56 AM
                            [**2132-10-17**]  03:26 PM
                            [**2132-10-18**]  03:02 AM
                            [**2132-10-18**]  04:01 AM
                            [**2132-10-18**]  03:53 PM
                             [**2132-10-19**]  03:39 AM
                             [**2132-10-19**]  04:02 PM
                             [**2132-10-20**]  03:59 AM
   WBC
   26.2
   26.5
   28.9
   24.2
   27.6
   Hct
   29.5
   29.6
   28.7
   29.8
   29.9
   27.5
   Plt
   184
   222
   241
   278
   318
   Cr
   0.7
   0.7
   0.5
   0.5
   0.4
   0.5
   1.0
   TCO2
   25
   27
   Glucose
   196
   260
   101
   90
   78
   108
   76
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR - Increased interstitial opacities
   Microbiology: No new data.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now likely
   complicated by volume overload and VAP.
   #. Necrotizing pancreatitis: Unchanged  on most recent CT.  No evidence
   of hemorrhage at this time.
   - Surgery following
 no intervention for now.
   - Continue cipro/meropenem
 Day [**9-1**]
   - Post-pyloric feeding
   - Will d/w nutrition role of pancreatic enzyme replacement for diarrhea
   - Ensure adequate pain control
  On Fentanyl TD today and wean gtt
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements have improved now on PS, 50%
   FiO2 and off paralytics. Then developed increased secretions, elevated
   WBC, and CT findings concerning for VAP.  Have tried ARDSnet AC
   ventilation multiple times using TV
s between 350-450 cc (6cc/kg
   IBW=386)- with each attempt, pt became dyssynchronous and tachypneic,
   no improv
t with heavy sedation. At this time, better to have TVs in
   500s than be chronically paralyzed. Back to PSV. Unable to place radial
   art line so will do intermittent ABGs and follow sats.
    This morning more hypoxemia, acidotic, and tachycardic, likely related
   to fatigue and pulmonary edema.
   - Increase from PS 10/5 to [**11-25**]
   - On vancomycin for VAP (8 days)
 adjust dose based on trough of 22
   (hold am dose then decrease to q12)
   - Continue weaning Ativan in hopes of extubating later this week to
   avoid trach
   - Diurese
   #. Fevers/Elevated WBC: Fevers likely represent pancreatitis with
   superimposed VAP.
   - Continue broad spectrum abx with vanc/[**Last Name (un) **]/cipro.  (Switched to [**Last Name (un) **]
   yesterday for better CNS coverage given VP shunt)
   - Continue to follow cultures
   #. Mental status:  Opens eyes, but no withdrawal to pain or spontaneous
   movement of extremities.  Likely due to high levels of sedation.
   Minimal improvement
 now tracking to eyes.
   - Contineu to wean sedation
   - If persistent, consider head CT and tapping shunt
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-20**] 06:43 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-10-21 07:13:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain
   24 Hour Events:
 FEVER - 101.4
F - [**2132-10-20**] 08:00 PM
   Nutrition did not think that pancreatic enzyme replacement would be
   useful
   Got 20mg IV lasix x1, 40mg IV lasix x1 over the course of the day
   PM lytes: Cr 1.5 (0.5 two days prior) -sent urine lytes--> Feurea 44
   -has foley in place
   -bladder pressure increased to 29, abdomen seemed more tense
   -surgery evaluated patient
   -f/u HCT, for concerns for hemorrhagic pancreatitis
   -transfused 1u PRBCs
   -attempted A-line:  unsuccessful
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-19**] 02:00 PM
   Vancomycin - [**2132-10-20**] 08:00 PM
   Ciprofloxacin - [**2132-10-20**] 10:00 PM
   Meropenem - [**2132-10-21**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 3.5 units/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-20**] 08:05 AM
   Furosemide (Lasix) - [**2132-10-20**] 03:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-21**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.4
C (101.1
   HR: 117 (108 - 128) bpm
   BP: 123/57(73) {105/50(64) - 137/71(87)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 16 (8 - 17)mmHg
   Bladder pressure: 25 (25 - 30) mmHg
                                Total In:
                                                                  3,476 mL
                                                                  1,125 mL
   PO:
                                TF:
                                                                  1,210 mL
                                                                    331 mL
   IVF:
                                                                  1,466 mL
                                                                    215 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,965 mL
                                                                    480 mL
   Urine:
                                                                  1,465 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,511 mL
                                                                    645 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 13 (13 - 13) mL
   Vt (Spontaneous): 523 (479 - 600) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 93%
   ABG: ///26/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Intubated, sedated.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to voice
   Labs / Radiology
   330 K/uL
   8.6 g/dL
   100 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   25 mg/dL
   108 mEq/L
   145 mEq/L
   26.2 %
   24.4 K/uL
        [image002.jpg]
                            [**2132-10-17**]  03:26 PM
                            [**2132-10-18**]  03:02 AM
                            [**2132-10-18**]  04:01 AM
                            [**2132-10-18**]  03:53 PM
                             [**2132-10-19**]  03:39 AM
                             [**2132-10-19**]  04:02 PM
                             [**2132-10-20**]  03:59 AM
                             [**2132-10-20**]  04:46 PM
                             [**2132-10-20**]  10:57 PM
                             [**2132-10-21**]  03:00 AM
   WBC
   26.5
   28.9
   24.2
   27.6
   24.4
   Hct
   28.7
   29.8
   29.9
   27.5
   25.6
   26.2
   Plt
   222
   241
   278
   318
   330
   Cr
   0.7
   0.5
   0.5
   0.4
   0.5
   1.0
   1.5
   1.8
   TCO2
   27
   Glucose
   [**Telephone/Fax (2) 9074**]
   108
   76
   112
   100
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Necrotizing pancreatitis
 Overnight, had increasing bladder pressures,
   developed acute renal failure. Abdomen appears more tense. Evaluated by
   surgery overnight and this morning. They are closely following. Fever &
   leukocytosis persist; no evidence of progressive necrosis or hemorrhage
   on most recent CT [**10-15**]
   - appreciate continued surgery involvement
   -repeat CT abdomen today
   - cont broad-spectrum ABXs meropenem/cipro (day [**10-1**])
   -Continue Vanc day 7 of 8
   - cont TF via NJ
   - cont insulin gtt for hyperglycemia
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS
 more acidotic overnight.
   - continue ventilator support, FiO2 as tolerated to maintain O2sat >
   93%
   -obtain ABG to further evaluate acidosis
   - follow VBG to evaluate status of ventilation, O2 sat for oxygenation
   as A-line unable to be placed overnight.
   - daily CXR
   Acute Renal Failure: Cr 0.5 two days ago. Now climbing, most recently
   1.8.  Urine lytes consistent with intrarenal etiology. Concern for
   increasing bladder pressure secondary to worsening abdominal process
   (?hemorrhagic conversion of pancreatitis, abdominal compartment
   syndrome).
   -CT abdomen as above
   -obtain UA, Urine sediment, U eos
   -hold lasix
   -redose Vancomycin and Meropenem.
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date); R IJ site does not appear infected
   -send c. diff toxin x 3 (1 negative)
   -broad spectrum ABXs vanc/meropenem/cipro, as above
   -f/u pending cx data
   -consider neurosurg c/s re: tap of VP shunt +/- head CT if all other
   fever workup unrevealing
   FEN
   - cont TF
   - insulin gtt
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-10-21 09:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 101.4
   - Increase creat 1.4, bladder pressure 29
   - 1 unit PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-19**] 02:00 PM
   Vancomycin - [**2132-10-20**] 08:00 PM
   Ciprofloxacin - [**2132-10-20**] 10:00 PM
   Meropenem - [**2132-10-21**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 3.5 units/hour
   Fentanyl (Concentrate) - 375 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-10-20**] 03:28 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-21**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-21**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.2
   HR: 114 (108 - 128) bpm
   BP: 108/54(68) {105/50(64) - 135/68(84)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.9 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 10 (8 - 17)mmHg
   Bladder pressure: 17 (17 - 30) mmHg
                               Total In:
                                                                  3,476 mL
                                                                  1,549 mL
   PO:
                               TF:
                                                                  1,210 mL
                                                                    485 mL
   IVF:
                                                                  1,466 mL
                                                                    254 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,965 mL
                                                                    750 mL
   Urine:
                                                                  1,465 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,511 mL
                                                                    799 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 13 (13 - 13) mL
   Vt (Spontaneous): 501 (501 - 600) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 13.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Lungs: decreased bs, no rhonchi
   CV: tachycardic, 2/6 SEM
   Abd: distended (unchanged), hypoactive bs
   Skin:  warm, no rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   330 K/uL
   100 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   25 mg/dL
   108 mEq/L
   145 mEq/L
   26.2 %
   24.4 K/uL
        [image002.jpg]
                            [**2132-10-17**]  03:26 PM
                            [**2132-10-18**]  03:02 AM
                            [**2132-10-18**]  04:01 AM
                            [**2132-10-18**]  03:53 PM
                             [**2132-10-19**]  03:39 AM
                             [**2132-10-19**]  04:02 PM
                             [**2132-10-20**]  03:59 AM
                             [**2132-10-20**]  04:46 PM
                             [**2132-10-20**]  10:57 PM
                             [**2132-10-21**]  03:00 AM
   WBC
   26.5
   28.9
   24.2
   27.6
   24.4
   Hct
   28.7
   29.8
   29.9
   27.5
   25.6
   26.2
   Plt
   222
   241
   278
   318
   330
   Cr
   0.7
   0.5
   0.5
   0.4
   0.5
   1.0
   1.5
   1.8
   TCO2
   27
   Glucose
   [**Telephone/Fax (2) 9074**]
   108
   76
   112
   100
   Other labs: PT / PTT / INR:11.0/23.5/0.9, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: VBG - 7.28/52/62
   Imaging: CXR - Worsening bilateral infiltrates.
   Microbiology: No new micro data.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now complicated
   by volume overload, presumed VAP, and ARF.
   #. Necrotizing pancreatitis:
   - Surgery following
 no intervention for now.
   - Continue cipro/meropenem
 Day [**10-1**]
   - Post-pyloric feeding
   - Ensure adequate pain control
  On Fentanyl TD today and wean gtt
   - Hct drop today with increased bladder pressure and tense abdomen
   concern for intraabominal hemorrhage / hemorrhagic pancreatitis -> will
   repeat abd CT today
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements have improved now on PS, 50%
   FiO2 and off paralytics. Then developed increased secretions, elevated
   WBC, and CT findings concerning for VAP.  Have tried ARDSnet AC
   ventilation multiple times using TV
s between 350-450 cc (6cc/kg
   IBW=386)- with each attempt, pt became dyssynchronous and tachypneic,
   no improv
t with heavy sedation. At this time, better to have TVs in
   500s than be chronically paralyzed. Unable to place radial art line so
   will do intermittent ABGs and follow sats.
    Was improving, but worsening ventilation over the past few days
   requiring more PS.
   - Increase from PS 10/5 to [**11-25**] to 15/8 with progressive acidosis on
   VBG
   - Check ABG today and calculate acid/base status
   - On vancomycin for VAP (Day [**6-25**])
 adjust dose based on trough of 22
   (hold am dose then decrease to 750mg q12)
   - Hold diurese given ARF
   #. Fevers/Elevated WBC: Fevers likely represent pancreatitis with
   superimposed VAP.
   - Continue broad spectrum abx with vanc/[**Last Name (un) **]/cipro.  (Switched to [**Last Name (un) **]
   yesterday for better CNS coverage given VP shunt)
   - Continue to follow cultures
   # ARF: Worsening creatinine.  FeNa c/w intrarenal process.  Elevated
   bladder pressure concerning for obstructive physiology.
   - U/A, eos
   - Abd CT as above
   - [**Hospital1 **] creatinine
   - Hold lasix for now
   #. Mental status:  Opens eyes, but no withdrawal to pain or spontaneous
   movement of extremities.  Likely due to high levels of sedation.
   Minimal improvement
 now tracking to eyes.
   - Continue to wean sedation
   - If persistent, consider head CT and tapping shunt
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-21**] 06:38 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-10-22 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.3
F - [**2132-10-21**] 08:00 PM
   CTA Abd/Pelvis:  ?RML PNA.  No evidence of intraabdominal hemorrhage.
   Extensive peripancreatic inflammatory changes compared to CT 8 days
   prior.
   UA with 21-50 RBC, [**11-7**] WBC, Mod Bacteria.  Foley already exchanged
   day prior.  Awaiting culture results
   Continued to spike to 102.3 overnight.
   Creatinine in PM unchanged, 1.8 --> 1.8
   RLE swelling, new from yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-19**] 02:00 PM
   Meropenem - [**2132-10-21**] 03:52 PM
   Vancomycin - [**2132-10-21**] 08:00 PM
   Ciprofloxacin - [**2132-10-21**] 10:41 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-21**] 03:53 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-22**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.7
C (101.7
   HR: 112 (105 - 127) bpm
   BP: 116/55(70) {101/40(56) - 142/71(83)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.9 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 9 (7 - 17)mmHg
   Bladder pressure: 21 (17 - 21) mmHg
   Total In:
                                                                  3,738 mL
                                                                  1,004 mL
   PO:
   TF:
                                                                    924 mL
                                                                    359 mL
   IVF:
                                                                  1,144 mL
                                                                     94 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,055 mL
                                                                  1,090 mL
   Urine:
                                                                  1,755 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,683 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 533 (344 - 659) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.33/50/63/23/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Intubated, sedated.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to voice
   Labs / Radiology
   350 K/uL
   8.6 g/dL
   99 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   29 mg/dL
   106 mEq/L
   141 mEq/L
   27.4 %
   24.1 K/uL
        [image002.jpg]
   INR 1.5
   [**10-22**] C diff pending
   [**10-21**] Blood cultures x2
   [**10-21**] Urine culture pending
                             [**2132-10-19**]  03:39 AM
                             [**2132-10-19**]  04:02 PM
                             [**2132-10-20**]  03:59 AM
                             [**2132-10-20**]  04:46 PM
                             [**2132-10-20**]  10:57 PM
                             [**2132-10-21**]  03:00 AM
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
   WBC
   24.2
   27.6
   24.4
   24.1
   Hct
   29.9
   27.5
   25.6
   26.2
   28.2
   27.4
   Plt
   [**Telephone/Fax (3) 9110**]50
   Cr
   0.4
   0.5
   1.0
   1.5
   1.8
   1.8
   1.9
   TCO2
   28
   Glucose
   78
   108
   76
   112
   100
   107
   99
   Other labs: PT / PTT / INR:16.4/33.1/1.5, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Necrotizing pancreatitis
 CT abdomen negative for hemorrhage, though
   there is extensive peripancreatic inflammation.   Surgery is closely
   following. Fever & leukocytosis persist; no evidence of progressive
   necrosis or hemorrhage on most recent CT [**10-15**]
   - appreciate continued surgery involvement
   - cont broad-spectrum ABXs meropenem/cipro (day [**12-1**])
   -discontinue Vanc -day 8 of 8
   - cont TF via NJ
   - cont insulin gtt for hyperglycemia
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS
   - continue ventilator support, FiO2 as tolerated to maintain O2sat >
   93%
   -obtain ABG to further evaluate acidosis
   - follow VBG to evaluate status of ventilation, O2 sat for oxygenation
   as A-line unable to be placed overnight.
   - daily CXR
   - plan for trach on Friday if unable to wean from vent
   Acute Renal Failure: Cr 0.5 two days ago. Now climbing, most recently
   1.9.  Urine lytes consistent with intrarenal etiology. Concern for
   increasing bladder pressure secondary to worsening abdominal process
   (?hemorrhagic conversion of pancreatitis, abdominal compartment
   syndrome).
   -IV fluid challenge today
   -hold lasix
   -redose Meropenem.
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date); R IJ site does not appear infected
   -C diff pending
   -broad spectrum ABXs meropenem and cipro, as above
   -f/u pending cx data
   -consider neurosurg c/s re: tap of VP shunt +/- head CT if all other
   fever workup unrevealing
   RLE swelling:
   -obtain RLE Us to eval for possible DVT
   FEN
   - cont TF
   - insulin gtt
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-22**] 02:32 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-10-22 10:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CT abd - no hemorrhage, extensive pancreatic inflammatory changes,
   RML PNA
   - U/A [**11-7**] WBC with mod bacteria (foley changed day prior)
   - RLE more swollen than LLE
   - Tm 102.3
   - TV in 100s, Rate in 30s with wheezing - AC 400 / 26/ 8 / 0.5 - got
   much more comfortable after change
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-10-19**] 02:00 PM
   Meropenem - [**2132-10-21**] 03:52 PM
   Vancomycin - [**2132-10-22**] 08:41 AM
   Ciprofloxacin - [**2132-10-22**] 10:15 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-21**] 03:53 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-22**] 08:41 AM
   Other medications:
   Cipro, versed, fentanyl, lopid, folate, ppi, insulin gtt, SQ heparin,
   fentanyl TD, vanco, meropenem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-22**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.2
C (99
   HR: 103 (97 - 127) bpm
   BP: 99/60(69) {99/40(56) - 142/71(83)} mmHg
   RR: 24 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.9 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 18 (7 - 18)mmHg
   Bladder pressure: 23 (21 - 23) mmHg
   Total In:
                                                                  3,738 mL
                                                                  1,614 mL
   PO:
   TF:
                                                                    924 mL
                                                                    528 mL
   IVF:
                                                                  1,144 mL
                                                                    536 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,055 mL
                                                                  1,445 mL
   Urine:
                                                                  1,755 mL
                                                                    645 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,683 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 533 (344 - 659) mL
   PS : 15 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/50/63/23/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   350 K/uL
   99 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   29 mg/dL
   106 mEq/L
   141 mEq/L
   27.4 %
   24.1 K/uL
        [image002.jpg]
                             [**2132-10-19**]  03:39 AM
                             [**2132-10-19**]  04:02 PM
                             [**2132-10-20**]  03:59 AM
                             [**2132-10-20**]  04:46 PM
                             [**2132-10-20**]  10:57 PM
                             [**2132-10-21**]  03:00 AM
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
   WBC
   24.2
   27.6
   24.4
   24.1
   Hct
   29.9
   27.5
   25.6
   26.2
   28.2
   27.4
   Plt
   [**Telephone/Fax (3) 9110**]50
   Cr
   0.4
   0.5
   1.0
   1.5
   1.8
   1.8
   1.9
   TCO2
   28
   Glucose
   78
   108
   76
   112
   100
   107
   99
   Other labs: PT / PTT / INR:16.4/33.1/1.5, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:31/36, Alk Phos / T Bili:117/0.8,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:666 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR - Stable bilateral infiltrates.
   Microbiology: No new micro. C. diff / blood / urine pending.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now complicated
   by volume overload, presumed VAP, and ARF.
   #. Necrotizing pancreatitis:
   - Surgery following
 no intervention for now.
   - Continue cipro/meropenem
 Day [**10-1**]
   - Post-pyloric feeding
   - Ensure adequate pain control
  On Fentanyl TD today and wean gtt
   - Hct drop today with increased bladder pressure and tense abdomen
   concern for intraabominal hemorrhage / hemorrhagic pancreatitis -> will
   repeat abd CT today
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements have improved now on PS, 50%
   FiO2 and off paralytics. Then developed increased secretions, elevated
   WBC, and CT findings concerning for VAP.  Have tried ARDSnet AC
   ventilation multiple times using TV
s between 350-450 cc (6cc/kg
   IBW=386)- with each attempt, pt became dyssynchronous and tachypneic,
   no improv
t with heavy sedation. At this time, better to have TVs in
   500s than be chronically paralyzed. Unable to place radial art line so
   will do intermittent ABGs and follow sats.
    Was improving, but worsening ventilation over the past few days
   requiring more PS.
   - Increase from PS 10/5 to [**11-25**] to 15/8 with progressive acidosis on
   VBG
   - Check ABG today and calculate acid/base status
   - On vancomycin for VAP (Day [**6-25**])
 adjust dose based on trough of 22
   (hold am dose then decrease to 750mg q12)
   - Hold diurese given ARF
   #. Fevers/Elevated WBC: Fevers likely represent pancreatitis with
   superimposed VAP.
   - Continue broad spectrum abx with vanc/[**Last Name (un) **]/cipro.  (Switched to [**Last Name (un) **]
   yesterday for better CNS coverage given VP shunt)
   - Continue to follow cultures
   # ARF: Worsening creatinine.  FeNa c/w intrarenal process.  Elevated
   bladder pressure concerning for obstructive physiology.
   - U/A, eos
   - Abd CT as above
   - [**Hospital1 **] creatinine
   - Hold lasix for now
   #. Mental status:  Opens eyes, but no withdrawal to pain or spontaneous
   movement of extremities.  Likely due to high levels of sedation.
   Minimal improvement
 now tracking to eyes.
   - Continue to wean sedation
   - If persistent, consider head CT and tapping shunt
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-22**] 07:14 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 26 minutes
   Patient is critically ill

2132-10-23 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.7
F - [**2132-10-23**] 04:00 AM
   - again, persistently febrile
   - did not tolerate AC for long, back on PSV
   - LENI negative for DVT
   - IP planning trach, possibly friday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-22**] 08:41 AM
   Ciprofloxacin - [**2132-10-22**] 08:00 PM
   Meropenem - [**2132-10-23**] 04:00 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-22**] 04:11 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-23**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.3
C (102.7
   HR: 119 (97 - 127) bpm
   BP: 101/44(58) {99/44(58) - 132/74(86)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.9 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 14 (7 - 19)mmHg
   Bladder pressure: 22 (22 - 23) mmHg
   Total In:
                                                                  3,325 mL
                                                                    856 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    345 mL
   IVF:
                                                                  1,025 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    330 mL
   Urine:
                                                                  1,635 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 486 (460 - 486) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 25 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24 cmH2O/mL
   SpO2: 97%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Intubated, sedated.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Abdomen: Distended. +BS. No rebound or guarding.
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to voice
   Labs / Radiology
   398 K/uL
   8.7 g/dL
   109 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   31 mg/dL
   108 mEq/L
   144 mEq/L
   27.0 %
   23.4 K/uL
        [image002.jpg]
   [**10-22**] C diff negative
   [**10-21**] Blood cultures x2 pending
                             [**2132-10-20**]  03:59 AM
                             [**2132-10-20**]  04:46 PM
                             [**2132-10-20**]  10:57 PM
                             [**2132-10-21**]  03:00 AM
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
   WBC
   27.6
   24.4
   24.1
   22.8
   23.4
   Hct
   27.5
   25.6
   26.2
   28.2
   27.4
   25.8
   27.0
   Plt
   [**Telephone/Fax (3) 9132**]27
   398
   Cr
   1.0
   1.5
   1.8
   1.8
   1.9
   1.8
   2.0
   TCO2
   28
   Glucose
   76
   112
   100
   107
   99
   131
   109
   Other labs: PT / PTT / INR:13.5/28.1/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**9-6**], Alk Phos / T Bili:95/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:472 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Necrotizing pancreatitis
 CT abdomen negative for hemorrhage, though
   there is extensive peripancreatic inflammation.   Surgery is closely
   following. Fever & leukocytosis persist; no evidence of progressive
   necrosis or hemorrhage on most recent CT [**10-15**]
   - appreciate continued surgery involvement
   - cont broad-spectrum ABXs meropenem/cipro (day 13/14)
   - cont TF via NJ
   - cont insulin gtt for hyperglycemia
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS
   - continue ventilator support, FiO2 as tolerated to maintain O2sat >
   93%
   -obtain ABG to further evaluate acidosis
   - follow VBG to evaluate status of ventilation, O2 sat for oxygenation
   as A-line unable to be placed overnight.
   - daily CXR
   - IP planning for trach on Friday if unable to wean from vent
   Acute Renal Failure: Cr 0.5 two days ago. Now climbing, most recently
   1.9.  Urine lytes consistent with intrarenal etiology. Concern for
   increasing bladder pressure secondary to worsening abdominal process
   (?hemorrhagic conversion of pancreatitis, abdominal compartment
   syndrome).
   -would consider renal consult tomorrow if Cr continues to worsen
   -hold lasix
   -redose Meropenem.
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date); R IJ site does not appear infected
   -C diff negative
   -broad spectrum ABXs meropenem and cipro, as above
   -f/u pending cx data
   -consider neurosurg c/s re: tap of VP shunt +/- head CT if all other
   fever workup unrevealing
   RLE swelling:
   -LENI negative
   FEN
   - cont TF
   - insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-10-23 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - IP consult: plan for bedside trach Friday
   - Tm 102.7
   - LENI negative for DVT
   - Did not tolerate AC, so back on PS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-22**] 08:41 AM
   Meropenem - [**2132-10-23**] 04:00 AM
   Ciprofloxacin - [**2132-10-23**] 08:05 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-22**] 04:11 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-23**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-23**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.8
C (100
   HR: 112 (102 - 127) bpm
   BP: 114/49(65) {101/43(58) - 132/74(86)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.9 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 8 (7 - 19)mmHg
   Bladder pressure: 22 (22 - 22) mmHg
                                Total In:
                                                                  3,325 mL
                                                                  1,544 mL
   PO:
                                TF:
                                                                  1,200 mL
                                                                    502 mL
   IVF:
                                                                  1,025 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    475 mL
   Urine:
                                                                  1,635 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                  1,069 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 467 (460 - 486) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   398 K/uL
   109 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   31 mg/dL
   108 mEq/L
   144 mEq/L
   27.0 %
   23.4 K/uL
        [image002.jpg]
                             [**2132-10-20**]  03:59 AM
                             [**2132-10-20**]  04:46 PM
                             [**2132-10-20**]  10:57 PM
                             [**2132-10-21**]  03:00 AM
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
   WBC
   27.6
   24.4
   24.1
   22.8
   23.4
   Hct
   27.5
   25.6
   26.2
   28.2
   27.4
   25.8
   27.0
   Plt
   [**Telephone/Fax (3) 9132**]27
   398
   Cr
   1.0
   1.5
   1.8
   1.8
   1.9
   1.8
   2.0
   TCO2
   28
   Glucose
   76
   112
   100
   107
   99
   131
   109
   Other labs: PT / PTT / INR:13.5/28.1/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**9-6**], Alk Phos / T Bili:95/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:472 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR - Stable since yesterday.
   Microbiology: All cx negative to date. Blood cultures pending.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now complicated
   by volume overload, presumed VAP, and ARF.
   #. Necrotizing pancreatitis: Bladder pressure 30 today.  Most recent CT
   abd without persistent pancreatic inflammation, no hemorrhage.
   - Surgery following
 no intervention for now.
   - Recheck bladder pressure later today and will inform surgery is
   persistently or more elevated
   - Continue cipro/meropenem
 Day 13/14
   - Post-pyloric feeding
   - Ensure adequate pain control
  On Fentanyl TD and gtt
   - Continue insulin gtt and gemfibrizol for hypertriglycerdemia.
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements subsequently improved and
   placed on PS, 50% FiO2 and off paralytics. Then developed increased
   secretions, elevated WBC, and CT findings concerning for VAP
 s/p 8
   days of vanc (d/c
ed [**10-22**]).  Have tried ARDSnet AC ventilation multiple
   times using TV
s between 350-450 cc (6cc/kg IBW=386)- with each
   attempt, pt became dyssynchronous and tachypneic; no improv
t with
   heavy sedation. At this time, better to have TVs in 500s than be
   chronically paralyzed. Was improving, but worsening ventilation over
   the past few days requiring more PS.  Unable to place radial art line
   so will do intermittent ABGs and follow sats.
   - Continue PS ventilation
   - Hold diuresis given ARF
   - Plan for trach Friday by IP
   #. Fevers/Elevated WBC: Fevers likely represent pancreatitis with
   superimposed VAP, now s/p 8 day course of vanc.  U/A positive.
   - Continue broad spectrum abx with [**Last Name (un) **]/cipro.  (Switched to [**Last Name (un) **] [**10-19**]
   for better CNS coverage given VP shunt)
   - Continue to follow cultures
    # ARF: Worsening creatinine, but relatively stable over 48hours.  FeNa
   c/w intrarenal process.  Unremarkable appearance on CT.   Eos
   negative.  IVF challenge without improvement.
   - [**Hospital1 **] creatinine
   - Consider renal consult if fxn continues to worsen
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-23**] 06:53 AM 50 mL/hour
   Glycemic Control:  Insulin gtt.
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2132-10-24 06:25:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain
   24 Hour Events:
 FEVER - 102.6
F - [**2132-10-23**] 08:00 PM
   Consented for trach today
   No other events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-22**] 08:41 AM
   Ciprofloxacin - [**2132-10-23**] 08:00 PM
   Meropenem - [**2132-10-24**] 04:00 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-23**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-24**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.1
C (100.6
   HR: 112 (107 - 126) bpm
   BP: 125/77(88) {99/42(59) - 139/77(88)} mmHg
   RR: 18 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.9 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 20 (8 - 20)mmHg
   Bladder pressure: 27 (27 - 30) mmHg
   Total In:
                                                                  2,535 mL
                                                                    184 mL
   PO:
   TF:
                                                                  1,108 mL
   IVF:
                                                                    816 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    275 mL
   Urine:
                                                                  1,625 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    910 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (447 - 554) mL
   PS : 12 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   420 K/uL
   8.2 g/dL
   87 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.6 mEq/L
   34 mg/dL
   109 mEq/L
   145 mEq/L
   26.8 %
   27.7 K/uL
        [image002.jpg]
                             [**2132-10-20**]  04:46 PM
                             [**2132-10-20**]  10:57 PM
                             [**2132-10-21**]  03:00 AM
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
   WBC
   24.4
   24.1
   22.8
   23.4
   27.7
   Hct
   25.6
   26.2
   28.2
   27.4
   25.8
   27.0
   26.8
   Plt
   [**Telephone/Fax (3) 9154**]98
   420
   Cr
   1.5
   1.8
   1.8
   1.9
   1.8
   2.0
   1.9
   TCO2
   28
   Glucose
   112
   100
   107
   99
   131
   109
   87
   Other labs: PT / PTT / INR:13.5/28.1/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**9-6**], Alk Phos / T Bili:95/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:472 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Necrotizing pancreatitis
 CT abdomen negative for hemorrhage, though
   there is extensive peripancreatic inflammation.   Surgery is closely
   following. Fever & leukocytosis persist; no evidence of progressive
   necrosis or hemorrhage on most recent CT [**10-15**]
   - appreciate continued surgery involvement
   - cont broad-spectrum ABXs meropenem/cipro (day 13/14)
   - cont TF via NJ
   - cont insulin gtt for hyperglycemia
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS
   - continue ventilator support, FiO2 as tolerated to maintain O2sat >
   93%
   -obtain ABG to further evaluate acidosis
   - follow VBG to evaluate status of ventilation, O2 sat for oxygenation
   as A-line unable to be placed overnight.
   - daily CXR
   - IP planning for trach on Friday if unable to wean from vent
   Acute Renal Failure: Cr 0.5 two days ago. Now climbing, most recently
   1.9.  Urine lytes consistent with intrarenal etiology. Concern for
   increasing bladder pressure secondary to worsening abdominal process
   (?hemorrhagic conversion of pancreatitis, abdominal compartment
   syndrome).
   -would consider renal consult tomorrow if Cr continues to worsen
   -hold lasix
   -redose Meropenem.
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date); R IJ site does not appear infected
   -C diff negative
   -broad spectrum ABXs meropenem and cipro, as above
   -f/u pending cx data
   -consider neurosurg c/s re: tap of VP shunt +/- head CT if all other
   fever workup unrevealing
   RLE swelling:
   -LENI negative
   FEN
   - cont TF
   - insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-10-24 10:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 102.6
   - Trach today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-22**] 08:41 AM
   Ciprofloxacin - [**2132-10-23**] 08:00 PM
   Meropenem - [**2132-10-24**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-24**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-24**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.6
C (99.6
   HR: 101 (101 - 126) bpm
   BP: 96/50(61) {96/42(61) - 140/77(88)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.9 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 12 (1 - 20)mmHg
   Bladder pressure: 23 (23 - 27) mmHg
   Total In:
                                                                  2,535 mL
                                                                    347 mL
   PO:
   TF:
                                                                  1,108 mL
   IVF:
                                                                    816 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    595 mL
   Urine:
                                                                  1,625 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    910 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (447 - 554) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   420 K/uL
   87 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.6 mEq/L
   34 mg/dL
   109 mEq/L
   145 mEq/L
   26.8 %
   27.7 K/uL
        [image002.jpg]
                             [**2132-10-20**]  04:46 PM
                             [**2132-10-20**]  10:57 PM
                             [**2132-10-21**]  03:00 AM
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
   WBC
   24.4
   24.1
   22.8
   23.4
   27.7
   Hct
   25.6
   26.2
   28.2
   27.4
   25.8
   27.0
   26.8
   Plt
   [**Telephone/Fax (3) 9154**]98
   420
   Cr
   1.5
   1.8
   1.8
   1.9
   1.8
   2.0
   1.9
   TCO2
   28
   Glucose
   112
   100
   107
   99
   131
   109
   87
   Other labs: PT / PTT / INR:13.5/28.1/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**9-6**], Alk Phos / T Bili:95/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:472 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Imaging: CXR - Stable.
   Microbiology: No new culture data.
   Assessment and Plan
   42 yo female admitted with alcoholic pancreatitis with pancreatic
   necrosis, acute respiratory failure, acidosis, shock.  Now complicated
   by volume overload, presumed VAP, and ARF.
   #. Necrotizing pancreatitis: Bladder pressure 30 today.  Most recent CT
   abd without persistent pancreatic inflammation, no hemorrhage.
   - Surgery following
 no intervention for now.
   - Continue cipro/meropenem
 Day 14/14
   - Post-pyloric feeding
   - Ensure adequate pain control
  On Fentanyl TD and gtt
   - Off insulin gtt this am and transitioned to RISS; gemfibrizol for
   hypertriglycerdemia.
   #.  Acute respiratory failure/ARDS: Initially requiring  ARDSnet
   ventilation (Tv 6 cc/kg), paralytics, and esophageal balloon to guide
   PEEP management. Ventilator requirements subsequently improved and
   placed on PS, 50% FiO2 and off paralytics. Then developed increased
   secretions, elevated WBC, and CT findings concerning for VAP
 s/p 8
   days of vanc (d/c
ed [**10-22**]).  Have tried ARDSnet AC ventilation multiple
   times using TV
s between 350-450 cc (6cc/kg IBW=386)- with each
   attempt, pt became dyssynchronous and tachypneic; no improv
t with
   heavy sedation. At this time, better to have TVs in 500s than be
   chronically paralyzed. Was improving, but worsening ventilation over
   the past few days requiring more PS.  Unable to place radial art line
   so will do intermittent ABGs and follow sats.
   - Continue PS ventilation
   - Hold diuresis given ARF
   - S/p trach by IP
   - Wean sedation as tolerated now that trached
   #. Fevers/Elevated WBC: Fevers likely represent pancreatitis with
   superimposed VAP, now s/p 8 day course of vanc.  U/A positive.
   - Last day of broad spectrum abx with [**Last Name (un) **]/cipro.  (Switched to [**Last Name (un) **]
   [**10-19**] for better CNS coverage given VP shunt)
   - Continue to follow cultures
    # ARF: Worsening creatinine, but relatively stable over 72hours.  FeNa
   c/w intrarenal process.  Unremarkable appearance on CT.   Eos
   negative.  IVF challenge without improvement.
   - [**Hospital1 **] creatinine
   - Consider renal consult if fxn continues to worsen
   - Diuresis in next couple days if continues to be stable
   ICU Care
   Nutrition: TF
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of the services provided. I agree with Dr. [**Last Name (STitle) 2256**]
s plan
   as outlined above, including assessment and plan. I would add: 42 yo
   female admitted with alcoholic pancreatitis progressing to >50%
   necrosis, with ARDS/acute respiratory failure. Underwent trach today
   for persistent respiratory failure. Plan to continue PSV and assess for
   ability to wean settings as tolerated, continue post-pyloric feeding.
   Renal function appears unchanged compared to yesterday.
   Pt is critically ill. Total time spent: 31 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2132-10-24**] 17:26 ------

2132-10-25 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2132-10-24**] 11:51 AM
   to OR for tracheostomy
 OR RECEIVED - At [**2132-10-24**] 01:15 PM
   returned s/p trach
 FEVER - 102.0
F - [**2132-10-25**] 03:00 AM
   Tracheostomy successfull, weaning sedation
   Tachycardic overnight to 130s, febrile to 102, gave Tylenol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-10-22**] 08:41 AM
   Ciprofloxacin - [**2132-10-24**] 10:00 PM
   Meropenem - [**2132-10-25**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-24**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-25**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-25**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.8
C (101.8
   HR: 131 (96 - 136) bpm
   BP: 133/68(82) {95/47(59) - 156/76(96)} mmHg
   RR: 24 (13 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.9 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  2,170 mL
                                                                    595 mL
   PO:
   TF:
                                                                    330 mL
                                                                    382 mL
   IVF:
                                                                  1,460 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    760 mL
   Urine:
                                                                  1,530 mL
                                                                    610 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    340 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 466 (455 - 1,008) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 12.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   467 K/uL
   8.3 g/dL
   191 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.3 mEq/L
   35 mg/dL
   109 mEq/L
   144 mEq/L
   25.4 %
   25.5 K/uL
        [image002.jpg]
                             [**2132-10-21**]  03:00 AM
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
   WBC
   24.4
   24.1
   22.8
   23.4
   27.7
   25.5
   Hct
   26.2
   28.2
   27.4
   25.8
   27.0
   26.8
   25.2
   25.4
   Plt
   [**Telephone/Fax (3) 9154**]98
   420
   467
   Cr
   1.8
   1.8
   1.9
   1.8
   2.0
   1.9
   1.8
   TCO2
   28
   Glucose
   100
   107
   99
   131
   109
   87
   191
   Other labs: PT / PTT / INR:14.9/28.5/1.3, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**9-5**], Alk Phos / T Bili:97/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Necrotizing pancreatitis
Surgery is closely following. Fever &
   leukocytosis persist; no evidence of progressive necrosis or hemorrhage
   on most recent CT [**2132-10-21**]
   - appreciate continued surgery involvement
   - cont broad-spectrum ABXs meropenem/cipro (day 14/14)
   - cont TF via NJ
   - cont insulin PRN
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS :  Patient had successful Trach
   placement today
   - continue ventilator support, FiO2 as tolerated to maintain O2sat >
   93%
   - follow VBG to evaluate status of ventilation, O2 sat for oxygenation
   as A-line unable to be placed overnight.
   - daily CXR
   -apprecitate IP assistance, will f/u recs
   Acute Renal Failure: Cr stable today 1.9.  Urine lytes consistent with
   intrarenal etiology.
   -hold lasix for now, may restart tomorrow
   -redose Meropenem.
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date)
   -C diff negative
   -broad spectrum ABXs meropenem and cipro, as above
   -f/u pending cx data
   RLE swelling:
   -LENI negative
   FEN
   - cont TF
   - insulin PRN
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-25**] 02:54 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-10-25 16:25:00 Physician Attending Progress Note
Chief Complaint: pancreatitis, respiratory failure
   HPI:
   42F (h/o chronic pancreatitis) initially presented after drinking binge
   (after death of mother) on [**10-11**] with acute necrotizing pancreatitis
   (>50% necrotized on Abd CT). Pt required intubation for hypoxemic
   respiratory failure. Pt eventually required paralysis (now off),
   esophageal balloon and trache on [**2132-10-24**].
   24 Hour Events:
 OR SENT - At [**2132-10-24**] 11:51 AM
   to OR for tracheostomy
 OR RECEIVED - At [**2132-10-24**] 01:15 PM
   returned s/p trach
 FEVER - 102.0
F - [**2132-10-25**] 03:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-10-25**] 04:00 AM
   Ciprofloxacin - [**2132-10-25**] 09:16 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Insulin - Regular - 4 units/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-25**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-10-25**] 04:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.5
C (99.5
   HR: 116 (102 - 137) bpm
   BP: 134/67(82) {105/43(60) - 156/80(96)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  2,170 mL
                                                                  1,998 mL
   PO:
   TF:
                                                                    330 mL
                                                                    815 mL
   IVF:
                                                                  1,460 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                  1,725 mL
   Urine:
                                                                  1,530 mL
                                                                  1,575 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    340 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (420 - 520) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trache
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   467 K/uL
   191 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.3 mEq/L
   35 mg/dL
   109 mEq/L
   144 mEq/L
   25.4 %
   25.5 K/uL
        [image002.jpg]
                             [**2132-10-21**]  03:00 AM
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
   WBC
   24.4
   24.1
   22.8
   23.4
   27.7
   25.5
   Hct
   26.2
   28.2
   27.4
   25.8
   27.0
   26.8
   25.2
   25.4
   Plt
   [**Telephone/Fax (3) 9154**]98
   420
   467
   Cr
   1.8
   1.8
   1.9
   1.8
   2.0
   1.9
   1.8
   TCO2
   28
   Glucose
   100
   107
   99
   131
   109
   87
   191
   Other labs: PT / PTT / INR:14.9/28.5/1.3, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**9-5**], Alk Phos / T Bili:97/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   42F (h/o chronic pancreatitis) p/w acute necrotizing pancreatitis,
   continued fevers and improving respiratory failure.
   #Respiratory failure:
   [] Wean PEEP to 5 given continued excellent O2 saturation
   [] Cont PSV with support
   #Continued elevated WBC (WBC 25)
   No evidence of active focal infection.
   [] D/C meropenem and cipro (completed 15d course)
   #Acute pancreatitis: Discussed with surgery consult (who will sign
   off). Defer further imaging unless change in clinical status.
   #AKD: Stabe Cr (1.8) x 1 wk. Likely instrinsic renal disease (?ATI
   during hospital course). FeNa elevated.
   [] recheck u/a
   #Volume status:
   [] goal I/O -1L+ with lasix bolus
   #Sedation: Wean sedation
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-25**] 12:24 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 335**]
   note,including assessment and plan.
   42 yo female admitted with alcoholic pancreatitis- complicated by
   necrosis of >50% pancreas approximately 2-3 days into hospitalization,
   with subsequent acute respiratory failure/ARDS and shock (resolved).
   She underwent trach yesterday for persistent respiratory failure.
   Throughout this time, she has remained febrile most days though the
   severity is gradually decreasing; this has been attributed to her
   severe pancreatitis as cultures have been largely negative.
   Currently on PSV 10/8
   WBC 25,
   Cr 1.8 (worsening of renal function began earlier this wk- cause
   unclear given lack of hypotension or IV contrast but has recently
   stabilized)
   For pancreatitis, will dc antibiotics as intent was for a 14 day
   course.
   For acute respiratory failure, will wean PS settings. Sedation
   requirements have been large, so hopefully we wil be able to
   significantly wean now that she has undergone trach. If not, would
   consider adding methadone to decrease need for fentnyl. Some agitation
   may be from delirium, in which case haldol could be used.
   Pt is critically ill.
   Total time spent: 31 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2132-10-25**] 17:51 ------

2132-10-26 08:07:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain
   24 Hour Events:
 BLOOD CULTURED - At [**2132-10-25**] 11:48 AM
 SPUTUM CULTURE - At [**2132-10-25**] 11:48 AM
 FEVER - 101.9
F - [**2132-10-25**] 08:00 AM
   - all abx stopped (course completed); surgery signed off
   - continuing to wean sedation
   - 20 IV lasix with limited response; ordered for 40mg IV lasix this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-10-25**] 04:00 AM
   Ciprofloxacin - [**2132-10-25**] 09:16 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Fentanyl (Concentrate) - 170 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-25**] 04:12 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-26**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-26**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 119 (111 - 130) bpm
   BP: 155/86(104) {115/43(60) - 155/86(104)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 2 (2 - 13)mmHg
   Bladder pressure: 23 (18 - 23) mmHg
   Total In:
                                                                  2,744 mL
                                                                  1,096 mL
   PO:
   TF:
                                                                  1,205 mL
                                                                    378 mL
   IVF:
                                                                    719 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    920 mL
   Urine:
                                                                  2,740 mL
                                                                    920 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -296 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (427 - 614) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 6.4 L/min
   Physical Examination
   GEN: NAD, intubated, sedated
   CVS: +S1/S2, no M/R/G, RRR
   LUNGS: CTAB in anterior lung fields, no wheezes crackles or ronchi
   ABD: +BS/NT/ND
   EXT: +2 pitting edema of bilateral upper and lower extremities
   Labs / Radiology
   476 K/uL
   8.0 g/dL
   133 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   34 mg/dL
   112 mEq/L
   149 mEq/L
   26.8 %
   26.0 K/uL
        [image002.jpg]
   [**10-25**] Sputum: budding yeast
   [**10-25**] Blood cultures x2 pending
   Urine culture pending
   [**10-22**] C diff negative
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
   WBC
   24.1
   22.8
   23.4
   27.7
   25.5
   26.0
   Hct
   28.2
   27.4
   25.8
   27.0
   26.8
   25.2
   25.4
   26.8
   Plt
   350
   327
   398
   420
   467
   476
   Cr
   1.8
   1.9
   1.8
   2.0
   1.9
   1.8
   1.6
   TCO2
   28
   Glucose
   107
   99
   131
   109
   87
   191
   133
   Other labs: PT / PTT / INR:14.9/28.5/1.3, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Necrotizing pancreatitis
Surgery has signed off. Fever & leukocytosis
   persist; no evidence of progressive necrosis or hemorrhage on most
   recent CT [**2132-10-21**]
   - reconsult surgery if patient develops worsening abdominal exam
   - completed broad-spectrum ABXs meropenem/cipro (day 14/14)
   - cont TF via NJ
   - cont insulin PRN
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS :  Patient had successful Trach
   placement.
   - continue ventilator support, FiO2 as tolerated to maintain O2sat >
   93%
   - follow VBG to evaluate status of ventilation
   - daily CXR
   -wean sedation
   -consider lasix gtt given that the patient is 23L positive
   Acute Renal Failure: Cr down fto 1.6 from 1.8.  Urine lytes consistent
   with intrarenal etiology.
   -start lasix gtt
   Fever/leukocytosis - may be attributable to severe pancreatitis, but
   cannot exclude superimposed infection (although all culture data
   unrevealing to date).
   -obtain fungal blood cultures given [**Female First Name (un) 444**] in sputum
   -C diff negative
   -f/u pending cx data
   FEN
   - cont TF
   - insulin PRN
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-25**] 02:54 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2132-10-26 08:16:00 Physician Attending Progress Note
Chief Complaint: acute necrotizing on chronic pancreatitis, respiratory
   failure
   HPI: 42F (h/o chronic pancreatitis) p/w acute necrotizing on chronic
   pancreatitis. Pt had severe hypoxemic resp failure (including need for
   paralysis / esophageal balloon) and is now improved s/p trache.
   Continued fevers and elevated WBC.
   24 Hour Events:
 BLOOD CULTURED - At [**2132-10-25**] 11:48 AM
 SPUTUM CULTURE - At [**2132-10-25**] 11:48 AM
 FEVER - 101.9
F - [**2132-10-25**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-10-25**] 04:00 AM
   Ciprofloxacin - [**2132-10-25**] 09:16 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Fentanyl (Concentrate) - 170 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-10-25**] 04:12 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-26**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-26**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 119 (111 - 130) bpm
   BP: 155/86(104) {115/43(60) - 155/86(104)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 2 (2 - 13)mmHg
   Bladder pressure: 23 (18 - 23) mmHg
                                Total In:
                                                                  2,744 mL
                                                                  1,097 mL
   PO:
                                TF:
                                                                  1,205 mL
                                                                    378 mL
   IVF:
                                                                    719 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    920 mL
   Urine:
                                                                  2,740 mL
                                                                    920 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -296 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (427 - 614) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 6.4 L/min
   Physical Examination
   Gen:  sedated, NAD
   HEENT: oro clear, no JVD
   Cor: RRR no m/r/g
   Lung: bilat coarse breath sounds
   Abd: soft, distended +BS
   Ext: no c/c. 3+ bilateral pitting LE edema
   Peripheral Vascular: (Right radial pulse: intact), (Left radial pulse:
   intact),
   Skin:  intact
   Neurologic: non-focal
   Labs / Radiology
   8.0 g/dL
   476 K/uL
   133 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   34 mg/dL
   112 mEq/L
   149 mEq/L
   26.8 %
   26.0 K/uL
        [image002.jpg]
                             [**2132-10-21**]  10:10 AM
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
   WBC
   24.1
   22.8
   23.4
   27.7
   25.5
   26.0
   Hct
   28.2
   27.4
   25.8
   27.0
   26.8
   25.2
   25.4
   26.8
   Plt
   350
   327
   398
   420
   467
   476
   Cr
   1.8
   1.9
   1.8
   2.0
   1.9
   1.8
   1.6
   TCO2
   28
   Glucose
   107
   99
   131
   109
   87
   191
   133
   Other labs: PT / PTT / INR:14.9/28.5/1.3, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   42F (h/o chronic pancreatitis) p/w acute necrotizing pancreatitis,
   continued fevers and improving respiratory failure.
   #Respiratory failure s/p trache. PSV 10/5, FiO2 0.5
   [] Wean FiO2 to 0.4
   [] Cont PSV with support
   [] send VBG
   #Continued elevated WBC (WBC 26, stable c/w yesterday) and fevers. Most
   likely pancreatitis.
   No evidence of active focal infection. D/C
ed meropenem and cipro
   yesterday (completed 15d course)
   Sputum: yeast. Defer line change for now.
   [] send blood cx with fungal isolators
   [] u/a with mod leuks, urine cx pend.
   [] send glucan / galactomannan
   #Acute pancreatitis: surgery signed off, defer further imaging unless
   change in clinical status.
   #Elevated Na 149
   [] free water increased to 250 q4
   #AKD: Stabe Cr (1.6, 1.8 x 1 wk). Likely instrinsic renal disease (?ATI
   during hospital course). FeNa elevated.
   #Volume status:
   [] goal I/O -2L+ with lasix gtt
   #Sedation: Continue to wean sedation 25%/day
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: heparin ppx
   Stress ulcer: PPI
   VAP: VAP bundle
   Comments:
   Communication:  Spoke with HCP [**Name (NI) 1583**]
   [**Name (NI) 129**] status: Full code
   Disposition : MICU
   Total time spent: 30 mins
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She continues to be febrile without hemodynamic instability. She has an
   indwelling VP shunt ( placed for problems related to hydrocephalus
   after a CVA). She has ongoing slow sedation wean. We will continue
   antibiotics for now and request neurosurgical input regarding sampling
   CSF to make sure we do not have issues with CSF contamination given
   problems with severe abdominal pancreatic inflammation and necrosis.
   She appears to be tolerating tube feeds well so far. We will continue
   support with CPAP/ PSV for now.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2132-10-26**] 15:48 ------

2132-10-27 06:25:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain
   24 Hour Events:
 BLOOD CULTURED - At [**2132-10-26**] 05:00 PM
   bc x2 venipuncture and cl
 FEVER - 102.6
F - [**2132-10-26**] 08:00 PM
   Restarted cipro, meropenem
   Re scaned abdomen
   Neuro [**Doctor First Name **] consulted for CSF sample from VP shunt: recommended head CT
   and do LP. If unable, neurosurg attending will do LP tomorrow.
   CT Head: Mild-to-moderate hydrocephalus with ventriculoperitoneal
   shunt.
   CT Abdomen: 1. Limited examination secondary to lack of intravenous
   contrast.
   2. Air-space consolidation within the right middle lobe and lingula
   concerning for aspiration or pneumonia. 4. Extensive peripancreatic
   inflammatory changes and intra-abdominal fluid. pseudocyst/fluid
   collection
   not excluded.
   slightly worsened in the interval compared to eight days prior.
   5. Extensive third spacing
   started on lasix gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-10-25**] 04:00 AM
   Ciprofloxacin - [**2132-10-26**] 04:03 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 2 units/hour
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl (Concentrate) - 170 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-27**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.9
C (100.2
   HR: 113 (108 - 132) bpm
   BP: 143/84(97) {110/49(64) - 156/86(104)} mmHg
   RR: 19 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 4 (2 - 10)mmHg
   Bladder pressure: 23 (23 - 23) mmHg
   Total In:
                                                                  3,675 mL
                                                                    893 mL
   PO:
   TF:
                                                                    775 mL
                                                                    218 mL
   IVF:
                                                                    740 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  4,790 mL
                                                                    910 mL
   Urine:
                                                                  4,190 mL
                                                                    910 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,115 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 178 (178 - 610) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 10.2 L/min
   Physical Examination
   2+ diffuse edema, regular heart sounds, no murmur, clear lungs, 2+
   distal pulses, moderate epigastric tenerness, tracking to voice
   intermittently
   Labs / Radiology
   507 K/uL
   8.3 g/dL
   123 mg/dL
   1.5 mg/dL
   30 mEq/L
   3.5 mEq/L
   33 mg/dL
   109 mEq/L
   150 mEq/L
   26.3 %
   26.2 K/uL
        [image002.jpg]
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
                             [**2132-10-27**]  03:29 AM
   WBC
   24.1
   22.8
   23.4
   27.7
   25.5
   26.0
   26.2
   Hct
   27.4
   25.8
   27.0
   26.8
   25.2
   25.4
   26.8
   26.3
   Plt
   350
   327
   398
   420
   467
   476
   507
   Cr
   1.8
   1.9
   1.8
   2.0
   1.9
   1.8
   1.6
   1.5
   TCO2
   28
   Glucose
   107
   99
   131
   109
   87
   191
   133
   123
   Other labs: PT / PTT / INR:14.8/28.0/1.3, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Imaging: Head CT (wet read)
   Mild-to-moderate hydrocephalus with ventriculoperitoneal shunt. No
   comparison
   study to assess change.
   Abdominal CT (wet read)
   1. Limited examination secondary to lack of intravenous
   contrast.
   2. Air-space consolidation within the right middle lobe and lingula
   concerning for aspiration or pneumonia. 4. Extensive peripancreatic
   inflammatory changes and intra-abdominal fluid. pseudocyst/fluid
   collection
   not excluded.
   slightly worsened in the interval compared to eight days prior.
   5. Extensive third spacing
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Persistent fevers: Most likely [**1-21**] pancreatic inflammation, but need to
   maintain concern for infection.  All cultures negative today and pt
   completed one week course for VAP last week.  Two potential sources of
   concern are pancreas and CNS given foreign body. No overt sign of
   infection on most recent CT abdomen.
   -          empiric meropenem resumed, today is day 2; pt is s/p 2 week
   course;m d/c cipro
   -          plan to LP, if unsuccessful, would refer to IR (per NSGY,
   her shunt is not tappable)
   -          fungal markers and cultures sent
   Necrotizing pancreatitis
Surgery has signed off. Fever & leukocytosis
   persist; significant peri-pancreatic inflammation seen on last scan.
   - reconsult surgery if patient develops worsening abdominal exam
   - completed broad-spectrum ABXs meropenem/cipro (day 14/14). Meropenem
   restarted.
   - cont TF via NJ
   - convert insulin drip to SQ
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS :  Patient had successful Trach
   placement.
   - continue ventilator support, on PSV, trial of trach mask
   - follow VBG to evaluate status of ventilation
   - daily CXR
   -wean sedation
   -continue lasix: outs substantial, but pt with significant ins (meds,
   free water flushes, etc)
   Hypernatremia: given fluid overload, will minimize sodium (volume
   intake) while increasing free water and achieving net diuresis with
   lasix (may add metolazone). Reviewed meds, everything that can be given
   in D5 is already being given in D5. Spoke to nutrition, sodium load of
   tube feeds is minimal.
   Acute Renal Failure: Cr down to 1.5 from 1.8.  Urine lytes consistent
   with intrarenal etiology. [**Month (only) 11**] have been contrast induce
   - continue lasix drip, monitor
   FEN
   - cont TF
   - insulin PRN
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-25**] 02:54 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2132-10-27 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Restarted cipro and merepenem
   - Repeat Abd CT - no changes
   - NSG - Cannot tap shunt, will need LP
   - Tm 102.6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-27**] 04:00 AM
   Meropenem - [**2132-10-27**] 08:43 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 4 units/hour
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl (Concentrate) - 80 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-27**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.4
C (101.2
   HR: 118 (108 - 132) bpm
   BP: 159/86(102) {110/49(64) - 159/86(102)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 5 (4 - 10)mmHg
   Bladder pressure: 23 () mmHg
                                Total In:
                                                                  3,675 mL
                                                                  1,964 mL
   PO:
                                TF:
                                                                    775 mL
                                                                    429 mL
   IVF:
                                                                    740 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  4,790 mL
                                                                  2,825 mL
   Urine:
                                                                  4,190 mL
                                                                  2,825 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,115 mL
                                                                   -861 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 430 (178 - 610) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.35/55/43 VBG
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   507 K/uL
   123 mg/dL
   1.5 mg/dL
   30 mEq/L
   3.5 mEq/L
   33 mg/dL
   109 mEq/L
   150 mEq/L
   26.3 %
   26.2 K/uL
        [image002.jpg]
                             [**2132-10-21**]  11:12 AM
                             [**2132-10-21**]  04:28 PM
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
                             [**2132-10-27**]  03:29 AM
   WBC
   24.1
   22.8
   23.4
   27.7
   25.5
   26.0
   26.2
   Hct
   27.4
   25.8
   27.0
   26.8
   25.2
   25.4
   26.8
   26.3
   Plt
   350
   327
   398
   420
   467
   476
   507
   Cr
   1.8
   1.9
   1.8
   2.0
   1.9
   1.8
   1.6
   1.5
   TCO2
   28
   Glucose
   107
   99
   131
   109
   87
   191
   133
   123
   Other labs: PT / PTT / INR:14.8/28.0/1.3, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR - Slowly improving opacities.
   Microbiology: All cultures negative.
   Assessment and Plan
   42F (h/o chronic pancreatitis) p/w acute necrotizing pancreatitis,
   continued fevers and improving respiratory failure/ARDS.
   #Respiratory failure s/p trach. PSV 10/5, FiO2 0.5
   - Continue to wean PS.  SBT today.
   - Diuresis
   #Continued elevated WBC and fevers: Most likely pancreatitis.
   Restarted meropenem / cipro yesterday b/c of shunt.  All cultures still
   negative.
   - D/C cipro as meropenem sufficient for CNS coverage
   - LP today
 if negative, can d/c antibiotics
   - Continue to follow cultures
   - F/U glucan / galactomannan
    #Acute pancreatitis: surgery signed off, defer further imaging unless
   change in clinical status.
   - Continue post-pyloric feeding
   #Elevated Na 149
   - Titrate FWF
   #AKD: Improving creatinine. Likely instrinsic renal disease. FeNa
   elevated.
   #Volume status:
   - Goal I/O -2L+ with lasix gtt
   - Concentrate all gtts and switch to D5 carrier when possible
   # Hyperglycemia:
   - Change from insulin gtt to NPH
   #Sedation: Continue to wean sedation.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-27**] 02:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM. [**Month (only) 11**] need PICC although still febrile
   with elevated WBC, not septic appearing and tolerating diuresis
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2132-10-28 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.2
F - [**2132-10-27**] 08:00 AM
   LP done this AM, with anesthesia
s assistance
   Patient became more alert and increasingly agitated at 5am.  Vent
   changed to trach collar with minimal improvement in agitation but
   patient has been breathing on her own with the trach collar since 5am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-27**] 04:00 AM
   Meropenem - [**2132-10-28**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 0.8 mg/hour
   Fentanyl (Concentrate) - 64 mcg/hour
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-28**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 121 (107 - 127) bpm
   BP: 171/108(123) {141/63(97) - 171/108(123)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
    CVP: 5 (2 - 6)mmHg
   Total In:
                                                                  3,719 mL
                                                                  1,343 mL
   PO:
   TF:
                                                                  1,007 mL
                                                                    356 mL
   IVF:
                                                                  1,067 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  5,190 mL
                                                                  2,225 mL
   Urine:
                                                                  4,990 mL
                                                                  2,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,471 mL
                                                                   -882 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (430 - 636) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 12.3 L/min
   Physical Examination
   Gen: Trach collar, awake
   Lungs: Rhochi bilaterally on anterior exam
   CV: RRR. No murmurs.
   Abdomen: Distended. Soft, NT. No masses. No rebound or guarding.
   Extremities: WWP: 2+ LE edema L>R
   [**Last Name (un) **]: Moving all extremities. Unable to answer questions. Alert, but
   not interactable.
   Labs / Radiology
   508 K/uL
   8.8 g/dL
   127 mg/dL
   1.5 mg/dL
   32 mEq/L
   3.4 mEq/L
   33 mg/dL
   106 mEq/L
   150 mEq/L
   28.1 %
   25.7 K/uL
        [image002.jpg]
   CXR yesterday: worsening pulmonary edema on top of ARDS
   CT head: hydrocephalus with L VP shunt
   [**10-26**] Blood cultures x2 pending
   Fungal culture pending
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
                             [**2132-10-27**]  03:29 AM
                             [**2132-10-27**]  04:53 PM
                            [**2132-10-28**]  04:03 AM
   WBC
   24.1
   22.8
   23.4
   27.7
   25.5
   26.0
   26.2
   25.7
   Hct
   27.4
   25.8
   27.0
   26.8
   25.2
   25.4
   26.8
   26.3
   28.1
   Plt
   350
   327
   398
   420
   467
   476
   507
   508
   Cr
   1.9
   1.8
   2.0
   1.9
   1.8
   1.6
   1.5
   1.5
   1.5
   Glucose
   99
   131
   109
   87
   191
   133
   123
   114
   127
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Persistent fevers: Most likely [**1-21**] pancreatic inflammation, but need to
   maintain concern for infection.  All cultures negative today and pt
   completed one week course for VAP last week.  Two potential sources of
   concern are pancreas and CNS given foreign body. No overt sign of
   infection on most recent CT abdomen.
   -          empiric meropenem resumed, today is day 3; pt is s/p 2 week
   course;m d/c cipro
   -          f/u cultures from LP
   -          f/u fungal markers and cultures
   -
   Necrotizing pancreatitis
Surgery has signed off. Fever & leukocytosis
   persist; significant peri-pancreatic inflammation seen on last scan.
   - reconsult surgery if patient develops worsening abdominal exam
   - completed broad-spectrum ABXs meropenem/cipro (day 14/14). Meropenem
   restarted (day 17)
   - cont TF via NJ
   - insulin SQ
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS :  Patient had successful Trach
   placement.
   - continue ventilator support, on PSV, trial of trach mask
   - follow VBG to evaluate status of ventilation
   - daily CXR
   -wean sedation
   -continue lasix gtt: goal -1-2L
   Hypernatremia: given fluid overload, will minimize sodium (volume
   intake) while increasing free water and achieving net diuresis with
   lasix (may add metolazone). Reviewed meds, everything that can be given
   in D5 is already being given in D5. Spoke to nutrition, sodium load of
   tube feeds is minimal.
   -start standing metolazone 2.5mg daily
   Acute Renal Failure: Cr stable at 1.5.  Urine lytes consistent with
   intrarenal etiology. [**Month (only) 11**] have been contrast induce
   - continue lasix drip, monitor
   FEN
   - cont TF
   - insulin SQ
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-27**] 11:49 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   20 Gauge - [**2132-10-27**] 08:26 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-10-28 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - On TM since 5am
   - Increased agitation overnight
   - Tm 101.2
   - Neg 1.5L / 24 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-27**] 04:00 AM
   Meropenem - [**2132-10-28**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 0.8 mg/hour
   Fentanyl (Concentrate) - 64 mcg/hour
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-28**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 113 (107 - 127) bpm
   BP: 111/86(91) {111/63(91) - 171/108(123)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
   CVP: 5 (2 - 6)mmHg
   Total In:
                                                                  3,720 mL
                                                                  1,668 mL
   PO:
   TF:
                                                                  1,008 mL
                                                                    519 mL
   IVF:
                                                                  1,067 mL
                                                                    494 mL
   Blood products:
   Total out:
                                                                  5,190 mL
                                                                  3,475 mL
   Urine:
                                                                  4,990 mL
                                                                  3,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,470 mL
                                                                 -1,807 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 168 (168 - 636) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   508 K/uL
   127 mg/dL
   1.5 mg/dL
   32 mEq/L
   3.4 mEq/L
   33 mg/dL
   106 mEq/L
   150 mEq/L
   28.1 %
   25.7 K/uL
        [image002.jpg]
                             [**2132-10-22**]  04:53 AM
                             [**2132-10-22**]  03:19 PM
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
                             [**2132-10-27**]  03:29 AM
                             [**2132-10-27**]  04:53 PM
                            [**2132-10-28**]  04:03 AM
   WBC
   24.1
   22.8
   23.4
   27.7
   25.5
   26.0
   26.2
   25.7
   Hct
   27.4
   25.8
   27.0
   26.8
   25.2
   25.4
   26.8
   26.3
   28.1
   Plt
   350
   327
   398
   420
   467
   476
   507
   508
   Cr
   1.9
   1.8
   2.0
   1.9
   1.8
   1.6
   1.5
   1.5
   1.5
   Glucose
   99
   131
   109
   87
   191
   133
   123
   114
   127
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   7.44/49 VBG
   Radiology: No new imaging.
   Micro: No new data.
   Assessment and Plan
   42F (h/o chronic pancreatitis) p/w acute ETOH necrotizing pancreatitis,
   continued fevers and improving respiratory failure/ARDS.
   #Respiratory failure s/p trach.
   - Continue on TM.  [**Month (only) 11**] need vent for sedation during LP.
   - Diuresis
   #Continued elevated WBC and fevers: Most likely pancreatitis.
   Restarted meropenem yesterday b/c of shunt.  All cultures still
   negative.
   - LP today per IR
 if negative, can d/c meropenem
   - Continue to follow cultures
   - F/U glucan / galactomannan
    #Acute pancreatitis: surgery signed off, defer further imaging unless
   change in clinical status.
   - Continue post-pyloric feeding. Will request recs regarding need for
   further imaging if fevers persist
   #Hypernatremia:
   - Titrate FWF
   #AKD: Improving creatinine. Likely instrinsic renal disease. FeNa
   elevated.
   #Volume status:
   - Goal I/O -2L with lasix gtt and metolazone
   - Concentrate all gtts and switch to D5 carrier when possible
   # Hyperglycemia:
   - Change from insulin gtt to NPH
 continue to titrate
   #Sedation: Continue to wean sedation.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-28**] 09:44 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   20 Gauge - [**2132-10-27**] 08:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2132-10-29 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CSF CULTURE - At [**2132-10-28**] 01:00 PM
 INVASIVE VENTILATION - STOP [**2132-10-28**] 07:00 PM
 FEVER - 101.2
F - [**2132-10-28**] 07:00 AM
   - LP not concerning for infxn, meropenem discontinued
   - haldol started 5mg [**Hospital1 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-27**] 04:00 AM
   Meropenem - [**2132-10-28**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-29**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-29**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98.1
   HR: 104 (102 - 121) bpm
   BP: 120/73(83) {111/67(79) - 189/108(123)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
             Total In:
                                                                  4,700 mL
                                                                  1,035 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                    328 mL
   IVF:
                                                                  1,049 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  6,480 mL
                                                                  1,860 mL
   Urine:
                                                                  6,180 mL
                                                                  1,860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,780 mL
                                                                   -825 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 168 (168 - 168) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, awake
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach collar present
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Tender: epigastric area. ND. No masses. No rebound or
   guarding.
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  No rashes
   Neurologic: Attentive, Responds to: Verbal stimuli, Moving all
   extremities.
   Labs / Radiology
   467 K/uL
   8.5 g/dL
   100 mg/dL
   1.2 mg/dL
   34 mEq/L
   3.7 mEq/L
   31 mg/dL
   103 mEq/L
   147 mEq/L
   25.4 %
   26.4 K/uL
        [image002.jpg]
   LP: gram stain negative; culture pending
   WBC 1 -40% lymphs, no polys
   protein 15
   glucose 94
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
                             [**2132-10-27**]  03:29 AM
                             [**2132-10-27**]  04:53 PM
                            [**2132-10-28**]  04:03 AM
                            [**2132-10-28**]  05:03 PM
                            [**2132-10-29**]  03:32 AM
   WBC
   23.4
   27.7
   25.5
   26.0
   26.2
   25.7
   26.4
   Hct
   27.0
   26.8
   25.2
   25.4
   26.8
   26.3
   28.1
   25.4
   Plt
   398
   420
   467
   476
   507
   508
   467
   Cr
   2.0
   1.9
   1.8
   1.6
   1.5
   1.5
   1.5
   1.3
   1.2
   Glucose
   109
   87
   191
   133
   123
   114
   127
   136
   100
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Persistent fevers: Most likely [**1-21**] pancreatic inflammation, but need to
   maintain concern for infection.  All cultures negative today and pt
   completed one week course for VAP last week.  Two potential sources of
   concern were pancreas and CNS given foreign body. LP cell count appears
   benign. Gram stain negative.  No overt sign of infection on most recent
   CT abdomen.
   -          No antibiotics for now
   -          f/u cultures from LP
   -          f/u fungal markers and cultures
   -          repeat UA positive; obtain urine culture
   -
   Necrotizing pancreatitis
Surgery has signed off. Fever & leukocytosis
   persist; significant peri-pancreatic inflammation seen on last scan.
   - reconsult surgery if patient develops worsening abdominal exam
   - completed 14 days of broad-spectrum ABXs meropenem/cipro.
   - cont TF via NJ
   - insulin SQ
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS :  Patient had successful Trach
   placement.
   - Speech and swallow has evaluated patient for speaking valve
   -continue lasix gtt: goal -1-2L
   Hypernatremia: improved.  given fluid overload, will minimize sodium
   (volume intake) while increasing free water and achieving net diuresis
   with lasix (may add metolazone). Reviewed meds, everything that can be
   given in D5 is already being given in D5. Spoke to nutrition, sodium
   load of tube feeds is minimal.
   -start standing metolazone 2.5mg [**Hospital1 **]
   Acute Renal Failure: Cr improved at 1.2.  Urine lytes consistent with
   intrarenal etiology. [**Month (only) 11**] have been contrast induce
   - continue lasix drip, monitor
   FEN
   - cont TF
   - insulin SQ
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-29**] 05:41 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   20 Gauge - [**2132-10-27**] 08:26 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-10-29 10:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - LP performed and not concerning for infection - meropenem d/c'ed
   - Tm 101.2
   - Agitation - started on haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-10-27**] 04:00 AM
   Meropenem - [**2132-10-28**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-29**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-29**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.2
   HR: 106 (102 - 120) bpm
   BP: 145/88(99) {120/67(79) - 189/108(119)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
             Total In:
                                                                  4,700 mL
                                                                  2,508 mL
   PO:
             750 mL
   TF:
                                                                  1,206 mL
                                                                    519 mL
   IVF:
                                                                  1,049 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  6,480 mL
                                                                  3,030 mL
   Urine:
                                                                  6,180 mL
                                                                  3,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,780 mL
                                                                   -522 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 168 (168 - 168) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   467 K/uL
   100 mg/dL
   1.2 mg/dL
   34 mEq/L
   3.7 mEq/L
   31 mg/dL
   103 mEq/L
   147 mEq/L
   25.4 %
   26.4 K/uL
        [image002.jpg]
                             [**2132-10-23**]  04:23 AM
                             [**2132-10-24**]  04:48 AM
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
                             [**2132-10-27**]  03:29 AM
                             [**2132-10-27**]  04:53 PM
                            [**2132-10-28**]  04:03 AM
                            [**2132-10-28**]  05:03 PM
                            [**2132-10-29**]  03:32 AM
   WBC
   23.4
   27.7
   25.5
   26.0
   26.2
   25.7
   26.4
   Hct
   27.0
   26.8
   25.2
   25.4
   26.8
   26.3
   28.1
   25.4
   Plt
   398
   420
   467
   476
   507
   508
   467
   Cr
   2.0
   1.9
   1.8
   1.6
   1.5
   1.5
   1.5
   1.3
   1.2
   Glucose
   109
   87
   191
   133
   123
   114
   127
   136
   100
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: CSR - 1 WBC, 1 RBC
   Imaging: No new imgaging.
   Microbiology: No new micro data.
   Assessment and Plan
   42F (h/o chronic pancreatitis) p/w acute ETOH necrotizing pancreatitis,
   continued fevers and improving respiratory failure/ARDS.
   #Respiratory failure s/p trach.
   - Continue on TM.  [**Month (only) 11**] need vent for sedation during LP.
   - Diuresis
   #Continued elevated WBC and fevers: Most likely pancreatitis.
   Restarted meropenem yesterday b/c of shunt.  All cultures still
   negative.
   - LP today per IR
 if negative, can d/c meropenem
   - Continue to follow cultures
   - F/U glucan / galactomannan
    #Acute pancreatitis: surgery signed off, defer further imaging unless
   change in clinical status.
   - Continue post-pyloric feeding. Will request recs regarding need for
   further imaging if fevers persist
   #Hypernatremia:
   - Titrate FWF
   #AKD: Improving creatinine. Likely instrinsic renal disease. FeNa
   elevated.
   #Volume status:
   - Goal I/O -2L with lasix gtt and metolazone
   - Concentrate all gtts and switch to D5 carrier when possible
   # Hyperglycemia:
   - Change from insulin gtt to NPH
 continue to titrate
   #Sedation: Continue to wean sedation.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-29**] 05:41 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   20 Gauge - [**2132-10-27**] 08:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2132-10-30 06:29:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain
   24 Hour Events:
   Speech and swallow evaluated her for a speaking valve
   UA positive, didn't start abx. Just sent for UCx
   Got extra 2mg po haldol in the afternoon (delirious)
   Got 2mg po dilaudid for back pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-10-28**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2132-10-29**] 11:35 AM
   Pantoprazole (Protonix) - [**2132-10-29**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-30**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 107 (91 - 120) bpm
   BP: 125/71(83) {92/52(63) - 153/96(109)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
             Total In:
                                                                  6,204 mL
                                                                    665 mL
   PO:
                                                                  2,350 mL
             TF:
                                                                  1,201 mL
                                                                    323 mL
   IVF:
                                                                    653 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  6,920 mL
                                                                  2,100 mL
   Urine:
                                                                  6,920 mL
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -716 mL
                                                                 -1,435 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, awake
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach collar present
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Tender: epigastric area. ND. No masses. No rebound or
   guarding.
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  No rashes
   Neurologic: Attentive, Responds to: Verbal stimuli, Moving all
   extremities.
   Labs / Radiology
   455 K/uL
   8.2 g/dL
   103 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.1 mEq/L
   29 mg/dL
   90 mEq/L
   137 mEq/L
   23.7 %
   25.5 K/uL
        [image002.jpg]
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
                             [**2132-10-27**]  03:29 AM
                             [**2132-10-27**]  04:53 PM
                            [**2132-10-28**]  04:03 AM
                            [**2132-10-28**]  05:03 PM
                            [**2132-10-29**]  03:32 AM
                            [**2132-10-29**]  04:25 PM
                            [**2132-10-30**]  04:22 AM
   WBC
   25.5
   26.0
   26.2
   25.7
   26.4
   25.5
   Hct
   25.2
   25.4
   26.8
   26.3
   28.1
   25.4
   23.7
   Plt
   467
   476
   507
   [**Telephone/Fax (3) 9268**]
   Cr
   1.8
   1.6
   1.5
   1.5
   1.5
   1.3
   1.2
   1.1
   1.2
   Glucose
   191
   133
   123
   114
   127
   136
   100
   145
   103
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Persistent fevers: Most likely [**1-21**] pancreatic inflammation, but need to
   maintain concern for infection.  All cultures negative today and pt
   completed one week course for VAP last week.  Two potential sources of
   concern were pancreas and CNS given foreign body. LP cell count appears
   benign. Gram stain negative.  No overt sign of infection on most recent
   CT abdomen.
   -          No antibiotics for now
   -          f/u cultures from LP
   -          f/u fungal markers and cultures
   -          repeat UA positive; obtain urine culture
   -
   Necrotizing pancreatitis
Surgery has signed off. Fever & leukocytosis
   persist; significant peri-pancreatic inflammation seen on last scan.
   - reconsult surgery if patient develops worsening abdominal exam
   - completed 14 days of broad-spectrum ABXs meropenem/cipro.
   - cont TF via NJ
   - insulin SQ
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS :  Patient had successful Trach
   placement.
   - Speech and swallow has evaluated patient for speaking valve
   -continue lasix gtt: goal -1-2L
   Hypernatremia: improved.  given fluid overload, will minimize sodium
   (volume intake) while increasing free water and achieving net diuresis
   with lasix (may add metolazone). Reviewed meds, everything that can be
   given in D5 is already being given in D5. Spoke to nutrition, sodium
   load of tube feeds is minimal.
   -start standing metolazone 2.5mg [**Hospital1 **]
   Acute Renal Failure: Cr improved at 1.2.  Urine lytes consistent with
   intrarenal etiology. [**Month (only) 11**] have been contrast induce
   - continue lasix drip, monitor
   FEN
   - cont TF
   - insulin SQ
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-30**] 01:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
   20 Gauge - [**2132-10-27**] 08:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-10-30 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - PMV
   - U/A positive, culture pending
   - Haldol standing and prn for delerium
   - Afebrile x 24 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-10-28**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2132-10-29**] 11:35 AM
   Pantoprazole (Protonix) - [**2132-10-29**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-10-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-30**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 92 (91 - 120) bpm
   BP: 115/67(78) {92/52(63) - 153/96(109)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
             Total In:
                                                                  6,204 mL
                                                                  1,353 mL
   PO:
                                                                  2,350 mL
                                                                    100 mL
   TF:
                                                                  1,201 mL
                                                                    498 mL
   IVF:
                                                                    653 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  6,920 mL
                                                                  2,920 mL
   Urine:
                                                                  6,920 mL
                                                                  2,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -716 mL
                                                                 -1,567 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   455 K/uL
   103 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.1 mEq/L
   29 mg/dL
   90 mEq/L
   137 mEq/L
   23.7 %
   25.5 K/uL
        [image002.jpg]
                             [**2132-10-24**]  05:22 PM
                             [**2132-10-25**]  04:26 AM
                             [**2132-10-26**]  03:59 AM
                             [**2132-10-27**]  03:29 AM
                             [**2132-10-27**]  04:53 PM
                            [**2132-10-28**]  04:03 AM
                            [**2132-10-28**]  05:03 PM
                            [**2132-10-29**]  03:32 AM
                            [**2132-10-29**]  04:25 PM
                            [**2132-10-30**]  04:22 AM
   WBC
   25.5
   26.0
   26.2
   25.7
   26.4
   25.5
   Hct
   25.2
   25.4
   26.8
   26.3
   28.1
   25.4
   23.7
   Plt
   467
   476
   507
   [**Telephone/Fax (3) 9268**]
   Cr
   1.8
   1.6
   1.5
   1.5
   1.5
   1.3
   1.2
   1.1
   1.2
   Glucose
   191
   133
   123
   114
   127
   136
   100
   145
   103
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Imaging: No new imaging.
   Microbiology: All negative to date.  CSF and Urine cultures pending.
   Assessment and Plan
   42F (h/o chronic pancreatitis) p/w acute ETOH necrotizing pancreatitis,
   continued fevers and improving respiratory failure/ARDS.
    #Respiratory failure s/p trach.
   - Continue on TM/PMV.  Defer capping trial given thick secretions.
   - Diuresis with lasix gtt
   #Continued elevated WBC and fevers: Now afebrile x 24 hours.  Most
   likely fevers from pancreatitis.  All cultures still negative.
   - F/U CSF culture, urine culture given + U/A (foley changed yesterday)
   - No daily cultures for fevers
    #Acute pancreatitis: surgery signed off, defer further imaging unless
   change in clinical status.
   - Continue post-pyloric feeding.
   # Anemia:  Hct trending down over past 2 days. No obvious source of
   bleeding.
   - [**Hospital1 **] Hct, Goal Hct > 21
   - Guaic stools
   - Continue PPI
   #Hypernatremia: Now low with Po intake.
   - D/C FWF
   #AKD: Improving creatinine. Continue to follow.
   #Volume status:
   - Goal I/O -1.5L with lasix gtt and metolazone
   - Concentrate all gtts
   # Hyperglycemia:  Titrate NPH
   #Delerium/Psychosis: Haldol prn. Reasses with PMV.
   # Dispo:
   - Screen for rehab
   - PT/OT
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-30**] 01:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-10-12**] 12:30 PM
 Plan for picc and then can d/c
   20 Gauge - [**2132-10-27**] 08:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor, rehab soon
   Total time spent: 25 minutes
   Patient is ill

2132-10-31 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2132-10-30**] 06:00 PM
 MULTI LUMEN - STOP [**2132-10-30**] 08:00 PM
 CALLED OUT
   Called out but did not get a bed.
   WBC 30 this morning, afebrile.  +diarrhea,  c.diff was sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-10-28**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-10-31**] 12:00 AM
   Furosemide (Lasix) - [**2132-10-31**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-31**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 96 (91 - 109) bpm
   BP: 120/68(80) {109/57(72) - 133/78(94)} mmHg
   RR: 15 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
                  Total In:
                                                                  2,617 mL
                                                                  1,338 mL
   PO:
                                                                    700 mL
                                                                    640 mL
   TF:
                                                                    816 mL
                                                                    528 mL
   IVF:
                                                                    441 mL
   Blood products:
   Total out:
                                                                  5,520 mL
                                                                  1,730 mL
   Urine:
                                                                  5,520 mL
                                                                  1,730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,903 mL
                                                                   -392 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   491 K/uL
   8.6 g/dL
   122 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.3 mEq/L
   28 mg/dL
   88 mEq/L
   137 mEq/L
   26.7 %
   31.4 K/uL
        [image002.jpg]
                             [**2132-10-27**]  03:29 AM
                             [**2132-10-27**]  04:53 PM
                            [**2132-10-28**]  04:03 AM
                            [**2132-10-28**]  05:03 PM
                            [**2132-10-29**]  03:32 AM
                            [**2132-10-29**]  04:25 PM
                            [**2132-10-30**]  04:22 AM
                            [**2132-10-30**]  10:28 AM
                            [**2132-10-30**]  03:36 PM
                            [**2132-10-31**]  03:04 AM
   WBC
   26.2
   25.7
   26.4
   25.5
   31.4
   Hct
   26.3
   28.1
   25.4
   23.7
   25.6
   25.6
   26.7
   Plt
   [**Telephone/Fax (3) 9289**]55
   491
   Cr
   1.5
   1.5
   1.5
   1.3
   1.2
   1.1
   1.2
   1.1
   1.0
   Glucose
   123
   114
   127
   136
   100
   145
   103
   108
   122
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOCALCEMIA (LOW CALCIUM)
 PANCREATITIS, CHRONIC
   42F with acute on chronic alcoholic pancreatitis complicated by
   pancreatic necrosis and ARDS.
   Persistent fevers: Most likely [**1-21**] pancreatic inflammation, but need to
   maintain concern for infection.  All cultures negative today and pt
   completed one week course for VAP last week.  Two potential sources of
   concern were pancreas and CNS given foreign body. LP cell count appears
   benign. Gram stain negative.  No overt sign of infection on most recent
   CT abdomen. At this time, pt has been afebrile for 36+ hrs, but it
   should be noted that she has been on standing tylenol throughout this
   time
   -          No antibiotics for now
   -          f/u cultures from LP
   -          f/u fungal markers and cultures
   -          repeat UA positive; negative culture
   Increase in Leukocytosis: Given diahrrea and increase in WBC from 25 to
   30 and then 36 within 24hrs, pt started on empiric po vanco. Cdiff tox
   pending.  Doubt any other source of infxn at this time, but pancreas
   and lung should be re-imaged if cdiff negative and no other source
   obvious.
   Necrotizing pancreatitis
Surgery has signed off.  leukocytosis
   persist; significant peri-pancreatic inflammation seen on last scan.
   - reconsult surgery if patient develops worsening abdominal exam
   - completed 14 days of broad-spectrum ABXs meropenem/cipro.
   - cont TF via NJ in addition to po
   - insulin SQ
   - cont gemfibrozil for hypertriglyceridemia (although more likely a
   result of pancreatitis than a cause)
   Hypoxemic Respiratory Failure/ARDS :  Patient had successful Trach
   placement.
   - Passy Muir placed, tolerating well
   - Lasix changed to [**Last Name (LF) **], [**First Name3 (LF) 116**] follow UOP, likely needs another 10L off to
   achieve dry weight s/p aggressive fluid rsuscitation
   Hypernatremia: improved with increased po intake
   - cont to monitor
   Acute Renal Failure: Cr continues to improve, now to 1.1.  Urine lytes
   consistent with intrarenal etiology. [**Month (only) 11**] have been  contrast induced
   - continue to monitor
   FEN
   - cont TF, po
   - insulin SQ
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2132-10-31**] 01:41 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2132-10-30**] 06:00 PM
   Prophylaxis:
   DVT:sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: floor

2132-10-31 10:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - PICC line placed under fluoro
   - C. diff sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-10-28**] 04:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-10-31**] 06:30 AM
   Heparin Sodium (Prophylaxis) - [**2132-10-31**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-31**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 99 (91 - 109) bpm
   BP: 113/72(81) {109/57(72) - 133/78(94)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.2 kg (admission): 93 kg
   Height: 68 Inch
                  Total In:
                                                                  2,617 mL
                                                                  1,976 mL
   PO:
                                                                    700 mL
                                                                    940 mL
   TF:
                                                                    816 mL
                                                                    626 mL
   IVF:
                                                                    441 mL
   Blood products:
   Total out:
                                                                  5,520 mL
                                                                  2,630 mL
   Urine:
                                                                  5,520 mL
                                                                  2,630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,903 mL
                                                                   -654 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   491 K/uL
   122 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.3 mEq/L
   28 mg/dL
   88 mEq/L
   137 mEq/L
   26.7 %
   31.4 K/uL
        [image002.jpg]
                             [**2132-10-27**]  03:29 AM
                             [**2132-10-27**]  04:53 PM
                            [**2132-10-28**]  04:03 AM
                            [**2132-10-28**]  05:03 PM
                            [**2132-10-29**]  03:32 AM
                            [**2132-10-29**]  04:25 PM
                            [**2132-10-30**]  04:22 AM
                            [**2132-10-30**]  10:28 AM
                            [**2132-10-30**]  03:36 PM
                            [**2132-10-31**]  03:04 AM
   WBC
   26.2
   25.7
   26.4
   25.5
   31.4
   Hct
   26.3
   28.1
   25.4
   23.7
   25.6
   25.6
   26.7
   Plt
   [**Telephone/Fax (3) 9289**]55
   491
   Cr
   1.5
   1.5
   1.5
   1.3
   1.2
   1.1
   1.2
   1.1
   1.0
   Glucose
   123
   114
   127
   136
   100
   145
   103
   108
   122
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:155/5/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:/35, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:12.0
   %, Mono:1.0 %, Eos:0.0 %, D-dimer:1219 ng/mL, Fibrinogen:682 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:454 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Imaging: No new imaging.
   Microbiology: Urine culture negative.  C. diff pending.
   Assessment and Plan
   42F (h/o chronic pancreatitis) p/w acute ETOH necrotizing pancreatitis,
   continued fevers and improving respiratory failure/ARDS.
    #Respiratory failure s/p trach.
   - Continue on TM/PMV.  Defer capping trial given thick secretions.
   - Diuresis with lasix gtt
   #Continued elevated WBC: Now afebrile x 24 hours.  Most likely fevers
   from pancreatitis.  All cultures still negative.  WBC count increased
   from 25 to 30 with diarrhea.
   - Recheck WBC count and send c. diff.  Hold on PO vanc for now.
    #Acute pancreatitis: surgery signed off, defer further imaging unless
   change in clinical status.
   - Continue post-pyloric feeding.
   # Anemia:  Hct trending down over past 2 days. No obvious source of
   bleeding.
   - [**Hospital1 **] Hct, Goal Hct > 21
   - Guaic stools
   - Continue PPI
   #Hypernatremia: Now low with Po intake.
   - D/C FWF
   #AKD: Improving creatinine. Continue to follow.
   #Volume status:
   - Goal I/O -1.5L with lasix gtt and metolazone
   - Concentrate all gtts
   # Hyperglycemia:  Titrate NPH
   #Delerium/Psychosis: Haldol prn. Reasses with PMV.
   # Dispo:
   - Screen for rehab
   - PT/OT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2132-10-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility if WBC count
   decreased, otherwise floor for further evaluation
   Total time spent: 20 minutes